2145-03-02 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2145-3-1**] 12:15 PM
 EKG - At [**2145-3-1**] 06:06 PM
 INVASIVE VENTILATION - START [**2145-3-2**] 12:00 AM
   started [**3-1**]
   TTE done yesterday shows ?vegetation on Aortic Valve.  TEE ordered and
   will likely be done this morning.
   Flu negative.
   Patient weaned off of Neosynephrine, received total of 8 L by midnight
   but Levophed unable to be weaned, despite CVP of [**1-11**].
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2145-3-1**] 03:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-3-2**] 06:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.16 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-3-2**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-2**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.5
   HR: 63 (63 - 87) bpm
   BP: 107/49(69) {72/36(49) - 138/65(89)} mmHg
   RR: 14 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 17 (10 - 21)mmHg
   Mixed Venous O2% Sat: 86 - 90
   Total In:
                                                                  8,784 mL
                                                                    925 mL
   PO:
   TF:
   IVF:
                                                                  8,704 mL
                                                                    925 mL
   Blood products:
   Total out:
                                                                  2,895 mL
                                                                    285 mL
   Urine:
                                                                  2,895 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,889 mL
                                                                    640 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 127 (127 - 127) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 113
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.35/40/131/21/-3
   Ve: 7.4 L/min
   PaO2 / FiO2: 328
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   236 K/uL
   9.9 g/dL
   158 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.8 mEq/L
   18 mg/dL
   109 mEq/L
   138 mEq/L
   29.6 %
   17.0 K/uL
        [image002.jpg]
                             [**2145-3-1**]  12:21 PM
                             [**2145-3-1**]  03:45 PM
                             [**2145-3-1**]  04:53 PM
                             [**2145-3-1**]  06:00 PM
                             [**2145-3-1**]  10:40 PM
                             [**2145-3-1**]  10:59 PM
                             [**2145-3-1**]  11:48 PM
                             [**2145-3-2**]  03:33 AM
                             [**2145-3-2**]  03:48 AM
                             [**2145-3-2**]  04:58 AM
   WBC
   18.0
   17.0
   Hct
   29.3
   31.5
   29.6
   Plt
   241
   236
   Cr
   1.0
   0.9
   0.9
   TropT
   0.05
   0.04
   TCO2
   21
   23
   24
   24
   23
   Glucose
   150
   150
   158
   Other labs: PT / PTT / INR:16.8/30.9/1.5, CK / CKMB /
   Troponin-T:59//0.04, ALT / AST:53/42, Alk Phos / T Bili:69/0.8,
   Differential-Neuts:87.2 %, Band:36.0 %, Lymph:9.2 %, Mono:2.7 %,
   Eos:0.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.7 g/dL, Ca++:7.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ELECTROLYTE & FLUID DISORDER, OTHER
   Assessment and Plan: 84y/o F with a PMH of severe Alzheimer's dementia,
   CAD s/p CABG and aortic stenosis admitted with fever, hypotension and
   respiratory distress intubated and requiring pressors
   .
   # Sepsis - The patient presented initially with fever to 102 now with
   hypothermia. Continued hypotension despite 5L IVF and levophed. Neo
   added. Most likely source is pulmonary based on reported sx of cough
   and fever followed by rapidly worsening resp failure. CXR with no clear
   infiltrate in ED. Will repeat in am. UA with 11-20 WBC, + LE, urine cx
   pnd. blood cx pnd. Lactate 4.5
   - continue IVF aggressively
   - maintain CVP>10-12 mmHg, MAP>65, will add vasopressin for refractory
   hypotension
   - measure CvO2 sat
   - continue broad spectrum abx with vanco/zosyn
   - f/u urine cx and blood cx
   - r/o flu
   - check free cortisol
   .
   # Respiratory Distress - Pt presented with dyspnea and hypoxia to ED in
   setting of fever. Initial CXR c/w pulm edema. Pt minimally verbal at
   baseline, unclear if sx of CP. Trop elevated to 0.05 on admission.
   Differential includes PNA given fever, WBC not elevated. Possible
   ischemia leading to pulm edema. Pt intubated [**3-1**] resp distress
   - Continue AC - wean FIO2 as tolerated
   - Cont. IVF for now given hypotension, initial CVP after 5L 9, will
   need diuresis following BP stabalization
   - Evaluate for infectious etiologies, repeat CXR in am, cont. broad
   spectrum antibiotics
   - Evaluate for evidence of ischemia, repeat ECG, trend CE
   .
   # ARF
 Cr 1.5, likely prerenal from sepsis, IVF as above, cont. to
   monitor
   .
   # CAD s/p CABG - Rule out ischemia as above. Obtain outpatient meds in
   am
   - repeat TTE in am
   .
   # Aortic Stenosis - Repeat TTE in am, no TTE in system
   .
   # Severe Alzheimer's Dementia - basline speaks in monosyllables and
   says yes or no to any questions. Obtain outpatient med list in am
   .
   # Hypothyroidism - obtain synthroid dose in am
   .
   # FEN: replete electrolytes, NPO, start TF in am
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: RIJ, will place art line
   .
   # Code: DNR/ok to intubate
   .
   # Communication: Son
   .
   # Disposition: pending above
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2145-2-28**] 11:07 PM
   Multi Lumen - [**2145-3-1**] 12:30 AM
   Arterial Line - [**2145-3-1**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2145-03-02 08:06:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2145-3-1**] 12:15 PM
 EKG - At [**2145-3-1**] 06:06 PM
 INVASIVE VENTILATION - START [**2145-3-2**] 12:00 AM
   started [**3-1**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2145-3-1**] 03:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-3-2**] 06:00 AM
   Infusions:
   Fentanyl - 80 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.14 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-3-2**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-2**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.8
   HR: 59 (59 - 87) bpm
   BP: 118/57(78) {72/36(49) - 138/65(89)} mmHg
   RR: 14 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   CVP: 17 (10 - 21)mmHg
   Mixed Venous O2% Sat: 86 - 90
   Total In:
                                                                  8,784 mL
                                                                  1,585 mL
   PO:
   TF:
   IVF:
                                                                  8,704 mL
                                                                  1,585 mL
   Blood products:
   Total out:
                                                                  2,895 mL
                                                                    285 mL
   Urine:
                                                                  2,895 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,889 mL
                                                                  1,300 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 127 (127 - 127) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 113
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.35/40/131/21/-3
   Ve: 5.9 L/min
   PaO2 / FiO2: 328
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant), No(t) S3, No(t) S4, (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Unable to stand
   Skin:  Cool, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: No spontaneous movement, Sedated, Tone:
   Normal
   Labs / Radiology
   9.9 g/dL
   236 K/uL
   158 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.8 mEq/L
   18 mg/dL
   109 mEq/L
   138 mEq/L
   29.6 %
   17.0 K/uL
        [image002.jpg]
                             [**2145-3-1**]  12:21 PM
                             [**2145-3-1**]  03:45 PM
                             [**2145-3-1**]  04:53 PM
                             [**2145-3-1**]  06:00 PM
                             [**2145-3-1**]  10:40 PM
                             [**2145-3-1**]  10:59 PM
                             [**2145-3-1**]  11:48 PM
                             [**2145-3-2**]  03:33 AM
                             [**2145-3-2**]  03:48 AM
                             [**2145-3-2**]  04:58 AM
   WBC
   18.0
   17.0
   Hct
   29.3
   31.5
   29.6
   Plt
   241
   236
   Cr
   1.0
   0.9
   0.9
   TropT
   0.05
   0.04
   TCO2
   21
   23
   24
   24
   23
   Glucose
   150
   150
   158
   Other labs: PT / PTT / INR:16.8/30.9/1.5, CK / CKMB /
   Troponin-T:59//0.04, ALT / AST:53/42, Alk Phos / T Bili:69/0.8,
   Differential-Neuts:87.2 %, Band:36.0 %, Lymph:9.2 %, Mono:2.7 %,
   Eos:0.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.7 g/dL, Ca++:7.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ELECTROLYTE & FLUID DISORDER, OTHER
    84 yo female with acute respiratory failure, fevers that have
   progressed to hypothermia and shock- appears septic with SIRS
   physiology affecting multiple organs. LUngs>urine most likely source.
   1. Septic shock: remains pressor-dependent on levophed and neo to
   maintain MAP>65. Continue aggressive fluid resuscitation. Add
   vasopressin as pressor requirements continuing to increase, check
   cortisol
   On vanc and zosyn; follow up cultures
   Abx: Vanc/Zosyn/Levo. Pancxs pend. GPC in pairs from sputum.
   Shock: Likely sepsis from respiratory source. GPC in pairs with 3+ PMNs
   in sputum. Ronchorous breath sounds. Flu swab pend. Good U/O. 7L NS in
   so far. Pressor requirements improving. Optimize CVP and SVO2. Consider
   stress steroids and APC if clinically worsens.
   2. Respiratory failure: Being maintained on ventilator. current
   oxygenation and ventilation adequate  but requiring high FiO2. Will
   increase PEEP to allow for FiO2 wean- so far BP appears to be
   tolerating
   Vent: Stable. Wean FiO2, then peep
   If persistent hemoptysis needs flex bronch to r/o airway injury..
   3. CAD: also r/o'ing MI though if positive, more likely a demand
   scenario. Check Echo in the morning
    Cards: Check TTE. Hx Ao stenosis. Wean neo first. Trop 0.06. No acute
   ST-T
   Renal: optimized, good U/O
   Rest per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines / Intubation:
   18 Gauge - [**2145-2-28**] 11:07 PM
   Multi Lumen - [**2145-3-1**] 12:30 AM
   Comments:
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU
   Total time spent:
   Patient is critically ill

2145-03-03 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2145-3-2**] 12:58 PM
 BLOOD CULTURED - At [**2145-3-2**] 02:51 PM
   at 11pm, patient desatted to low 90's. Peep increased to 8, FiO2 to 50.
   Sats recovered. CXR looks like volume loss in left lung ?mucous plug.
   ABG improved on these settings, were able to bring down FiO2 back to
   40, but with dropping the peep to 5, patient desatted to 80's. Levophed
   put up briefly to 0.05, but was put back to 0.03 and was turned off at
   7am.
   Urine output dropped off to 15cc/hour. Tried to increase her preload by
   giving 1L very slowly, but not much improvement.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2145-3-1**] 03:00 PM
   Vancomycin - [**2145-3-2**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-3-3**] 01:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Fentanyl - 70 mcg/hour
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2145-3-2**] 08:25 PM
   Fentanyl - [**2145-3-2**] 08:25 PM
   Heparin Sodium (Prophylaxis) - [**2145-3-3**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-3**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.1
   HR: 54 (54 - 71) bpm
   BP: 113/51(73) {76/35(49) - 118/57(78)} mmHg
   RR: 14 (14 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 60 Inch
    CVP: 14 (8 - 17)mmHg
   Mixed Venous O2% Sat: 89 - 89
   Total In:
                                                                  3,066 mL
                                                                  1,234 mL
   PO:
   TF:
   IVF:
                                                                  2,996 mL
                                                                  1,234 mL
   Blood products:
   Total out:
                                                                    886 mL
                                                                    105 mL
   Urine:
                                                                    886 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,180 mL
                                                                  1,129 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: 7.40/37/158/22/0
   Ve: 5.9 L/min
   PaO2 / FiO2: 395
   Physical Examination
   General: intubated and sedated
   HEENT: PERRL
   Lungs: Decreased breath sounds on entire left side
   Heart: bradycardic, III/VI SM at RUSB
   Abd: soft, NT/ND
   Ext: no edema
   Labs / Radiology
   181 K/uL
   8.7 g/dL
   144 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.0 mEq/L
   18 mg/dL
   108 mEq/L
   137 mEq/L
   26.1 %
   13.2 K/uL
        [image002.jpg]
                             [**2145-3-1**]  10:59 PM
                             [**2145-3-1**]  11:48 PM
                             [**2145-3-2**]  03:33 AM
                             [**2145-3-2**]  03:48 AM
                             [**2145-3-2**]  04:58 AM
                             [**2145-3-2**]  11:26 AM
                             [**2145-3-2**]  10:53 PM
                             [**2145-3-3**]  12:14 AM
                             [**2145-3-3**]  03:56 AM
                             [**2145-3-3**]  04:22 AM
   WBC
   17.0
   13.2
   Hct
   29.6
   26.1
   Plt
   236
   181
   Cr
   0.9
   0.9
   TCO2
   23
   24
   24
   23
   25
   24
   25
   24
   Glucose
   158
   144
   Other labs: PT / PTT / INR:16.8/30.9/1.5, CK / CKMB /
   Troponin-T:59//0.04, ALT / AST:53/42, Alk Phos / T Bili:69/0.8,
   Differential-Neuts:87.2 %, Band:36.0 %, Lymph:9.2 %, Mono:2.7 %,
   Eos:0.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.7 g/dL, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   CXR: [**2145-3-2**] in AM. (films from today not read yet but show volume loss
   in left lung with ?consolidative process in RLL)
                                Final Report
   REASON FOR EXAMINATION: Evaluation of the ET tube and central venous
   line
   placement.
   Portable AP chest radiograph was compared to a prior study obtained on
   [**2145-3-1**] at 1:43.
   The ET tube tip is currently 2 cm above the carina but given the
   flexion of
   the neck it might be still within the appropriate limits. The central
   venous
   line is in the right atrium approximately 3 cm below the carina. The NG
   tube
   tip is in the stomach. There is no interval change in bilateral pleural
   effusions and bibasal atelectasis.
   MICRO
   [1][**2145-3-3**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-PENDING
   [2][**2145-3-2**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [3][**2145-3-2**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [4][**2145-3-1**]
   Rapid Respiratory Viral Screen & Culture
   Rapid Respiratory Viral Antigen Test-FINAL; Respiratory Viral
   Culture-FINAL
   [5][**2145-3-1**]
   Rapid Respiratory Viral Screen & Culture
   Respiratory Viral Culture-PRELIMINARY; Rapid Respiratory Viral Antigen
   Test-FINAL
   [6][**2145-3-1**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   [7][**2145-3-1**]
   MRSA SCREEN
   MRSA SCREEN-PENDING
   [8][**2145-3-1**]
   URINE
   Legionella Urinary Antigen -FINAL
   [9][**2145-2-28**]
   URINE
   URINE CULTURE-PRELIMINARY {ESCHERICHIA COLI}
   [10][**2145-2-28**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [11][**2145-2-28**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   Assessment and Plan
   Assessment and Plan: 84y/o F with a PMH of severe Alzheimer's dementia,
   CAD s/p CABG and aortic stenosis admitted with severe septic shock
   # Respiratory Failure (non ARDS)
 the patient appears to have hypoxic
   respiratory failure likely secondary to pulmonary edema as a result of
   difficult hemodynamics in the setting of severe AS and fluid
   resuscitation from her septic shock. Overnight she had an acute
   desaturation event. CXR appears to show volume loss either secondary to
   fluid accumulation or mucous plugging.
   -          bedside ultrasound to assess for tapable fluid
   -          bronchoscopy
   -          continue to wean peep today (did not tolerate earlier, but
   should reattempt)
   -          wean sedation as tolerated
   .
   # Septic Shock - The patient presented initially with fever to 102.
   Continued hypotension despite 5L IV, although Levophed was able to be
   weaned off this morning. She remains on vasopressin now. UOP is
   dwindling, and did not respond to efforts to improve preload, but
   perhaps needs to be given at a faster bolus. Sources most likely
   pulmonary based on reported sx of cough and fever followed by rapidly
   worsening resp failure, however urine cx growing e coli. Endocarditis
   to be evaluated by TEE today.
   - maintain CVP>10-12 mmHg, MAP>65, cont vasopressin, on stress dose
   steroids since yesterday
   - will attempt to wean PEEP, to improve CO in setting of AS
   - consider another bolus to improve preload and uop
   - measure CvO2
   - continue broad spectrum abx with vanco/zosyn/levaquin
   - f/u urine cx and blood cx
 follow e coli sensitivities
   - RRVS negative
   - CE negative
   - TEE did not find vegetations
   # Bradycardia
 patient is in aflutter with variable 4-5:1 block. Seems
   to be vagal response, but improves when not stimulated. Will check TSH.
   .
   # ?AV Vegetation
 pt with severe AS and calcified valves, also
   suggestion of mobile vegetation on valve, but TEE to evaluate this was
   negative.
   .
   # ARF
 Cr 1.5 on admit now 0.9 - likely prerenal from sepsis, cont to
   monitor and renally dose meds. Changed to vanc 750 Q12, check trough in
   am
   .
   # CAD s/p CABG - Ruled out ischemia as above. EF 40%
   .
   # Aortic Stenosis
 Severe AS with AV area <0.8cm2, gradient 75, try to
   optimize CO by weaning PEEP as above, will need diuresis once off
   pressors
   .
   # Severe Alzheimer's Dementia - baseline speaks in monosyllables and
   says yes or no to any questions. PO meds on hold for now
   .
   # Hypothyroidism
 cont. synthroid IV, checking TSH
   .
   # FEN: replete electrolytes, NPO, start TF following TEE/bronch
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: RIJ, A line both placed on [**2-28**]
   .
   # Code: DNR/ok to intubate
   .
   # Communication: Son
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2145-2-28**] 11:07 PM
   Multi Lumen - [**2145-3-1**] 12:30 AM
   Arterial Line - [**2145-3-1**] 07:00 AM
   Prophylaxis:
   DVT: hep
   Stress ulcer: ppi
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22,640,400,50,50,1);

2145-03-03 09:06:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2145-3-2**] 12:58 PM
 BLOOD CULTURED - At [**2145-3-2**] 02:51 PM
   Desatted to low 90s last ngiht - peep and fio2 increased...CXR showed
   likely R main stem bronchus..ETT pulled back but no improvement....CXR
   showed volume loss L side...no improvement with suctioning...might need
   bronch but patient settled down....levophed is off....only on
   vasopressin...U/O dropped off last night....got fluid slowly w/o
   improvement....intermitent flutter with 5:1 block to HR 40s...also
   hypothermic...still bloody but more than yesterday.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2145-3-1**] 03:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-3-3**] 01:00 AM
   Vancomycin - [**2145-3-3**] 08:27 AM
   Infusions:
   Fentanyl - 70 mcg/hour
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2145-3-2**] 08:25 PM
   Fentanyl - [**2145-3-2**] 08:25 PM
   Heparin Sodium (Prophylaxis) - [**2145-3-3**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-3**] 09:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.3
C (95.6
   HR: 47 (47 - 71) bpm
   BP: 92/43(60) {76/35(49) - 127/57(81)} mmHg
   RR: 14 (14 - 18) insp/min
   SpO2: 96%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 60 Inch
   CVP: 13 (8 - 15)mmHg
   Mixed Venous O2% Sat: 89 - 89
   Total In:
                                                                  3,066 mL
                                                                  1,463 mL
   PO:
   TF:
   IVF:
                                                                  2,996 mL
                                                                  1,463 mL
   Blood products:
   Total out:
                                                                    886 mL
                                                                    130 mL
   Urine:
                                                                    886 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,180 mL
                                                                  1,354 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   SpO2: 96%
   ABG: 7.40/37/158/22/0
   Ve: 6.5 L/min
   PaO2 / FiO2: 395
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), All present
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: L base)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Cool, warming blanket
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   181 K/uL
   144 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.0 mEq/L
   18 mg/dL
   108 mEq/L
   137 mEq/L
   26.1 %
   13.2 K/uL
         [image002.jpg]
                             [**2145-3-1**]  10:59 PM
                             [**2145-3-1**]  11:48 PM
                             [**2145-3-2**]  03:33 AM
                             [**2145-3-2**]  03:48 AM
                             [**2145-3-2**]  04:58 AM
                             [**2145-3-2**]  11:26 AM
                             [**2145-3-2**]  10:53 PM
                             [**2145-3-3**]  12:14 AM
                             [**2145-3-3**]  03:56 AM
                             [**2145-3-3**]  04:22 AM
   WBC
   17.0
   13.2
   Hct
   29.6
   26.1
   Plt
   236
   181
   Cr
   0.9
   0.9
   TCO2
   23
   24
   24
   23
   25
   24
   25
   24
   Glucose
   158
   144
   Other labs: PT / PTT / INR:16.8/30.9/1.5, CK / CKMB /
   Troponin-T:59//0.04, ALT / AST:53/42, Alk Phos / T Bili:69/0.8,
   Differential-Neuts:87.2 %, Band:36.0 %, Lymph:9.2 %, Mono:2.7 %,
   Eos:0.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.2 g/dL, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR: progressive L side volume loss, effusion vs mucus
   plugging...former more likely
   Microbiology: Urine cx: Ecoli
   Spu cx: GPCocci, cx neg
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ELECTROLYTE & FLUID DISORDER, OTHER
    84 yo female with Septic shock:
   1.source: sputum, urine with Ecoli, cardiac vegetation
   - TEE pend today
   - Cultures cooking
   - On Vanc/Levo/Zosyn
   - Only on vasopressin today
   2. R lung collapse: pleural effusion more likely than mucus plug, but
   needs bronch to eval for persistent bloody secretions.
   Need ICU consent for bronch and thoracentesis. Check for fluid with US
   probe...too tenuous to go for CT chest.
   Wean peep as tolerated.
   3. Low U/O w/o renal insufficiency: Boluses to see if she responds.
   Diurese after off pressors
   4. Aflutter, bradycardia: no EKG changes..likely vagal...check
   TSH....keep atropine at bedside for procedures
   Rest per resident note.
   ICU Care
   Nutrition:
   Comments: Feed after TEE
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2145-3-1**] 12:30 AM
   Arterial Line - [**2145-3-1**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: Daily d/w son
   [**Name (NI) 156**] status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2145-03-04 07:01:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2145-3-3**] 09:52 AM - Deformed aortic
   valve with significant aortic stenosis and mild aortic regurgitation,
   but no dicrete vegetation
 BRONCHOSCOPY - At [**2145-3-3**] 11:22 AM - evidence of mucus plugging,
   CXR improved post procedure
   Pt required readdition of pressors, dopamine was started however pt
   developed short runs of VT and it was DC'd. Restarted levophed with
   good toleration.
   NG placed and TF started
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2145-3-1**] 03:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-3-3**] 06:10 PM
   Vancomycin - [**2145-3-3**] 08:00 PM
   Piperacillin - [**2145-3-4**] 06:02 AM
   Infusions:
   Fentanyl - 70 mcg/hour
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-3-4**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-4**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 58 (47 - 83) bpm
   BP: 104/57(75) {84/39(53) - 143/90(98)} mmHg
   RR: 14 (13 - 14) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 15 (10 - 30)mmHg
   CO/CI (Fick): (2.8 L/min) / (1.7 L/min/m2)
   Mixed Venous O2% Sat: 38 - 71
   Total In:
                                                                  3,849 mL
                                                                    529 mL
   PO:
   TF:
                                                                     94 mL
                                                                    197 mL
   IVF:
                                                                  3,736 mL
                                                                    332 mL
   Blood products:
   Total out:
                                                                    322 mL
                                                                    120 mL
   Urine:
                                                                    322 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,527 mL
                                                                    409 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   SpO2: 99%
   ABG: 7.37/40/129/22/-1
   Ve: 5.9 L/min
   PaO2 / FiO2: 322
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   182 K/uL
   9.1 g/dL
   162 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.8 mEq/L
   23 mg/dL
   105 mEq/L
   134 mEq/L
   27.2 %
   12.9 K/uL
        [image002.jpg]
                             [**2145-3-2**]  04:58 AM
                             [**2145-3-2**]  11:26 AM
                             [**2145-3-2**]  10:53 PM
                             [**2145-3-3**]  12:14 AM
                             [**2145-3-3**]  03:56 AM
                             [**2145-3-3**]  04:22 AM
                             [**2145-3-3**]  01:06 PM
                             [**2145-3-3**]  04:17 PM
                             [**2145-3-4**]  02:59 AM
                             [**2145-3-4**]  03:39 AM
   WBC
   13.2
   12.9
   Hct
   26.1
   27.2
   Plt
   181
   182
   Cr
   0.9
   0.9
   1.0
   TropT
   0.01
   TCO2
   23
   25
   24
   25
   24
   22
   24
   Glucose
   144
   151
   162
   Other labs: PT / PTT / INR:15.1/29.4/1.3, CK / CKMB /
   Troponin-T:38/3/0.01, ALT / AST:53/42, Alk Phos / T Bili:69/0.8,
   Differential-Neuts:88.5 %, Band:36.0 %, Lymph:9.1 %, Mono:2.3 %,
   Eos:0.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.2 g/dL, Ca++:7.7 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Assessment and Plan: 84y/o F with a PMH of severe Alzheimer's dementia,
   CAD s/p CABG and aortic stenosis admitted with severe septic shock
   # Respiratory Failure (non ARDS)
 the patient appears to have hypoxic
   respiratory failure likely secondary to pulmonary edema as a result of
   difficult hemodynamics in the setting of severe AS and fluid
   resuscitation from her septic shock. Overnight she had an acute
   desaturation event. CXR appears to show volume loss either secondary to
   fluid accumulation or mucous plugging.
   -          bedside ultrasound to assess for tapable fluid
   -          bronchoscopy
   -          continue to wean peep today (did not tolerate earlier, but
   should reattempt)
   -          wean sedation as tolerated
   .
   # Septic Shock - The patient presented initially with fever to 102.
   Continued hypotension despite 5L IV, although Levophed was able to be
   weaned off this morning. She remains on vasopressin now. UOP is
   dwindling, and did not respond to efforts to improve preload, but
   perhaps needs to be given at a faster bolus. Sources most likely
   pulmonary based on reported sx of cough and fever followed by rapidly
   worsening resp failure, however urine cx growing e coli. Endocarditis
   to be evaluated by TEE today.
   - maintain CVP>10-12 mmHg, MAP>65, cont vasopressin, on stress dose
   steroids since yesterday
   - will attempt to wean PEEP, to improve CO in setting of AS
   - consider another bolus to improve preload and uop
   - measure CvO2
   - continue broad spectrum abx with vanco/zosyn/levaquin
   - f/u urine cx and blood cx
 follow e coli sensitivities
   - RRVS negative
   - CE negative
   - TEE did not find vegetations
   # Bradycardia
 patient is in aflutter with variable 4-5:1 block. Seems
   to be vagal response, but improves when not stimulated. Will check TSH.
   .
   # ?AV Vegetation
 pt with severe AS and calcified valves, also
   suggestion of mobile vegetation on valve, but TEE to evaluate this was
   negative.
   .
   # ARF
 Cr 1.5 on admit now 0.9 - likely prerenal from sepsis, cont to
   monitor and renally dose meds. Changed to vanc 750 Q12, check trough in
   am
   .
   # CAD s/p CABG - Ruled out ischemia as above. EF 40%
   .
   # Aortic Stenosis
 Severe AS with AV area <0.8cm2, gradient 75, try to
   optimize CO by weaning PEEP as above, will need diuresis once off
   pressors
   .
   # Severe Alzheimer's Dementia - baseline speaks in monosyllables and
   says yes or no to any questions. PO meds on hold for now
   .
   # Hypothyroidism
 cont. synthroid IV, checking TSH
   .
   # FEN: replete electrolytes, NPO, start TF following TEE/bronch
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: RIJ, A line both placed on [**2-28**]
   .
   # Code: DNR/ok to intubate
   .
   # Communication: Son
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2145-3-3**] 05:46 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-3-1**] 12:30 AM
   Arterial Line - [**2145-3-1**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2145-03-04 11:29:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Mucus plugging yesterday
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2145-3-3**] 09:52 AM
 BRONCHOSCOPY - At [**2145-3-3**] 11:22 AM
   NO veggies on TEE but sAS, sMR, [**Doctor First Name **]
   Mucus plug removed by bronch, cxs sent
   Dopamine for hypotension and bradycardia caused NSVT, switched to
   levophed. Still on vasopressin.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2145-3-1**] 03:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-3-3**] 06:10 PM
   Piperacillin - [**2145-3-4**] 06:02 AM
   Vancomycin - [**2145-3-4**] 07:59 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Fentanyl - 70 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-3-4**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-4**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96
   HR: 59 (49 - 83) bpm
   BP: 116/54(76) {84/39(53) - 143/90(98)} mmHg
   RR: 14 (13 - 15) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 60 Inch
   CVP: 17 (11 - 30)mmHg
   CO/CI (Fick): (2.8 L/min) / (1.7 L/min/m2)
   Mixed Venous O2% Sat: 38 - 71
   Total In:
                                                                  3,849 mL
                                                                  1,005 mL
   PO:
   TF:
                                                                     94 mL
                                                                    344 mL
   IVF:
                                                                  3,736 mL
                                                                    661 mL
   Blood products:
   Total out:
                                                                    322 mL
                                                                    225 mL
   Urine:
                                                                    322 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,527 mL
                                                                    780 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 24 cmH2O
   SpO2: 99%
   ABG: 7.37/40/129/22/-1
   Ve: 6.2 L/min
   PaO2 / FiO2: 322
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), All present
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: L base)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Cool, warming blanket
   Neurologic: Responds to: deep sedation
   Labs / Radiology
   9.1 g/dL
   182 K/uL
   162 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.8 mEq/L
   23 mg/dL
   105 mEq/L
   134 mEq/L
   27.2 %
   12.9 K/uL
         [image002.jpg]
                             [**2145-3-2**]  04:58 AM
                             [**2145-3-2**]  11:26 AM
                             [**2145-3-2**]  10:53 PM
                             [**2145-3-3**]  12:14 AM
                             [**2145-3-3**]  03:56 AM
                             [**2145-3-3**]  04:22 AM
                             [**2145-3-3**]  01:06 PM
                             [**2145-3-3**]  04:17 PM
                             [**2145-3-4**]  02:59 AM
                             [**2145-3-4**]  03:39 AM
   WBC
   13.2
   12.9
   Hct
   26.1
   27.2
   Plt
   181
   182
   Cr
   0.9
   0.9
   1.0
   TropT
   0.01
   TCO2
   23
   25
   24
   25
   24
   22
   24
   Glucose
   144
   151
   162
   Other labs: PT / PTT / INR:15.1/29.4/1.3, CK / CKMB /
   Troponin-T:38/3/0.01, ALT / AST:53/42, Alk Phos / T Bili:69/0.8,
   Differential-Neuts:88.5 %, Band:36.0 %, Lymph:9.1 %, Mono:2.3 %,
   Eos:0.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.2 g/dL, Ca++:7.7 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR: recurrent RLL collapse
   Microbiology: BAL: ngtd
   Urine ecoli pansens
   Assessment and Plan
 INEFFECTIVE COPING
 BRADYCARDIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ELECTROLYTE & FLUID DISORDER, OTHER
    84 yo female with Septic + cardiogenic shock with multiple valvular
   abnormalities
   1. ID: Wean down abx: d/c levoflox. Continue Vanc + Zosyn x 7 days
   2. Cards consult to help optimize HR and BP on whiff of pressors with
   multiple  valvular abnormalities, developed Vt with dopamine. ?
   milrinone. ? bradycardia with coreg/digoxin. On stress dose steroids.
   3. Vent: Bronch today, then wean sedation and put on PSV. Consider
   thoracentesis if fails.
   4. Low U/O w/o renal insufficiency: Boluses to see if she responds.
   Diurese after off pressors
   Rest per resident note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2145-3-3**] 05:46 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-3-1**] 12:30 AM
   Arterial Line - [**2145-3-1**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments: Daily discussion with son
   [**Name (NI) 156**] status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2145-03-05 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2145-3-4**] 12:00 PM
 ARTERIAL LINE - STOP [**2145-3-4**] 09:13 PM
   Cards consulted yesterday for assistance with cardiogenic shock.  Have
   recommended for aortic valvuloplasty.
   Patient did not tolerate SBT this morning, became tachycardic,
   tachypneic so she was placed back on AC.
   Patient with significant pink/frothy secretions overnight.
   Vomiting x 3
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2145-3-4**] 11:49 AM
   Vancomycin - [**2145-3-4**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-3-5**] 05:32 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-3-5**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-5**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 62 (54 - 62) bpm
   BP: 106/55(68) {94/55(65) - 111/65(73)} mmHg
   RR: 19 (10 - 19) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 20 (12 - 26)mmHg
   Mixed Venous O2% Sat: 44 - 44
   Total In:
                                                                  2,307 mL
                                                                    380 mL
   PO:
   TF:
                                                                    792 mL
                                                                    115 mL
   IVF:
                                                                  1,206 mL
                                                                    265 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                    385 mL
                                                                    135 mL
   Urine:
                                                                    385 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,922 mL
                                                                    245 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 55
   PIP: 18 cmH2O
   Plateau: 17 cmH2O
   SpO2: 94%
   ABG: 7.34/40/109/21/-3
   Ve: 9.2 L/min
   PaO2 / FiO2: 273
   Physical Examination
   Gen: intubated, sedated
   CVS: +S1/S2, III/VI SM at RUSB
   LUNGS: +rhonchi anteriorly
   ABD: +BS, NT/ND
   EXT: trace peripheral edema
   Labs / Radiology
   198 K/uL
   9.4 g/dL
   146 mg/dL
   1.2 mg/dL
   21 mEq/L
   4.5 mEq/L
   30 mg/dL
   107 mEq/L
   136 mEq/L
   28.1 %
   13.2 K/uL
        [image002.jpg]
                             [**2145-3-2**]  10:53 PM
                             [**2145-3-3**]  12:14 AM
                             [**2145-3-3**]  03:56 AM
                             [**2145-3-3**]  04:22 AM
                             [**2145-3-3**]  01:06 PM
                             [**2145-3-3**]  04:17 PM
                             [**2145-3-4**]  02:59 AM
                             [**2145-3-4**]  03:39 AM
                             [**2145-3-4**]  06:06 PM
                             [**2145-3-5**]  04:22 AM
   WBC
   13.2
   12.9
   13.2
   Hct
   26.1
   27.2
   28.1
   Plt
   181
   182
   198
   Cr
   0.9
   0.9
   1.0
   1.2
   TropT
   0.01
   TCO2
   24
   25
   24
   22
   24
   23
   Glucose
   144
   151
   162
   146
   Other labs: PT / PTT / INR:14.6/29.0/1.3, CK / CKMB /
   Troponin-T:38/3/0.01, ALT / AST:41/23, Alk Phos / T Bili:120/0.6,
   Differential-Neuts:86.5 %, Band:36.0 %, Lymph:8.6 %, Mono:4.1 %,
   Eos:0.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL, Ca++:8.2 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.8 mg/dL
   IMAGING:
   CXR [**2145-3-4**]
   FINDINGS: Endotracheal tube terminates 4 cm above the carina. A
   nasogastric
   tube terminates in the expected location of stomach, unchanged. Also
   unchanged is a right internal jugular central venous line terminating
   in the
   right atrium. Multiple sternotomy wires are unchanged as are multiple
   vascular clips consistent with previous coronary arterial bypass graft.
   Bilateral pleural effusions are likely unchanged due to positional
   differences. Leftward mediastinal and cardiac deviation is unchanged,
   suggesting left volume loss and the cardiac border is obscured by the
   overlying opacity.
   IMPRESSION: Overall, minimally changed radiograph.
   MICRO:
   [1][**2145-3-3**]
   BRONCHOALVEOLAR LAVAGE
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   [2][**2145-3-3**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   [3][**2145-3-2**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [4][**2145-3-2**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [5][**2145-3-1**]
   Rapid Respiratory Viral Screen & Culture
   Rapid Respiratory Viral Antigen Test-FINAL; Respiratory Viral
   Culture-FINAL
   [6][**2145-3-1**]
   Rapid Respiratory Viral Screen & Culture
   Respiratory Viral Culture-FINAL; Rapid Respiratory Viral Antigen
   Test-FINAL
   [7][**2145-3-1**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   [8][**2145-3-1**]
   MRSA SCREEN
   MRSA SCREEN-FINAL
   [9][**2145-3-1**]
   URINE
   Legionella Urinary Antigen -FINAL
   [10][**2145-2-28**]
   URINE
   URINE CULTURE-FINAL {ESCHERICHIA COLI}
   [11][**2145-2-28**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [12][**2145-2-28**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   Assessment and Plan
   Assessment and Plan: 84y/o F with a PMH of severe Alzheimer's dementia,
   CAD s/p CABG and aortic stenosis admitted with severe septic shock
   # Respiratory Failure (non ARDS)
 the patient has hypoxic respiratory
   failure likely secondary to pulmonary edema as a result of difficult
   hemodynamics in the setting of severe AS and fluid resuscitation from
   her septic shock.  Mixed venous sat low today in the 40s but also has a
   normal lactate.  At this point, the patient most likely is suffering
   from cardiogenic shock, cardiology was consulted, but feel aside from
   valvuloplasty, there is not much from there standpoint left to do.  We
   do not believe she is a candidate for valvuloplasty given her tenuous
   status.
   -          bronchoscopy yesterday showed thick mucous.
   -          ? pleural effusions able to be tapped
   -          wean sedation as tolerated
   # Septic Shock : There continues to be no focal source of infection,
   aside from pansensitive E coli isolated from urine, which we do not
   believe is the source for her decompensation.  Sputum cultures were
   negative and TEE did not find vegetations; blood cultures remain
   negative.  BAL
s show polys.  Currently weaned off Levophed but
   continues on Vasopressin.
   - maintain CVP>10-12 mmHg, MAP>65, cont vasopressin/levophed, cont
   stress dose steroids
   - will attempt to wean PEEP, to improve CO in setting of AS
   - continue broad spectrum abx with vanco/zosyn
   - f/u blood cultures
   - d/c stress dose steroids
   # Vomiting: unclear etiology. Restart tubefeeds, reglan if high
   residuals.
    # Intermittent Bradycardia
 patient is in aflutter with variable
   4-5:1 block. Seems to be vagal response, but improves when not
   stimulated.
   # ?AV Vegetation
 pt with severe AS and calcified valves, also
   suggestion of mobile vegetation on valve, but TEE to evaluate this was
   negative.
   .# ARF
 creatinine starting to creep upwards, which is likely
   secondary to poor forward flow from AS. Urine lytes.
   # CAD s/p CABG - Ruled out ischemia as above. EF 40%
   # Aortic Stenosis
 Severe AS with AV area <0.8cm2, gradient 75, try to
   optimize CO by weaning PEEP as above.  Cardiology following.
   # Severe Alzheimer's Dementia - baseline speaks in monosyllables and
   says yes or no to any questions. PO meds on hold for now
   # Hypothyroidism
 cont. synthroid, TSH mildly elevated, will check T4
   # FEN: replete electrolytes, NPO, start TF following TEE/bronch
   # Prophylaxis: Subcutaneous heparin, VAP bundle, H2 blocker
   # Access: RIJ
   # Code: DNR/ok to intubate
   # Communication: Son
   .# Disposition: pending above; will need to readdress goals of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-3-1**] 12:30 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: ppi
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22,640,400,50,50,1);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22,640,400,50,50,1);

2145-03-05 10:09:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2145-3-4**] 12:00 PM
 ARTERIAL LINE - STOP [**2145-3-4**] 09:13 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2145-3-4**] 11:49 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-3-5**] 05:32 AM
   Vancomycin - [**2145-3-5**] 08:22 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-3-5**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-5**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 63 (54 - 64) bpm
   BP: 109/53(67) {94/53(65) - 111/65(73)} mmHg
   RR: 19 (10 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   CVP: 14 (12 - 26)mmHg
   Mixed Venous O2% Sat: 44 - 44
   Total In:
                                                                  2,307 mL
                                                                    660 mL
   PO:
   TF:
                                                                    792 mL
                                                                    115 mL
   IVF:
                                                                  1,206 mL
                                                                    485 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                    385 mL
                                                                    210 mL
   Urine:
                                                                    385 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,922 mL
                                                                    450 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 55
   PIP: 22 cmH2O
   Plateau: 22 cmH2O
   SpO2: 96%
   ABG: 7.34/40/109/21/-3
   Ve: 8.9 L/min
   PaO2 / FiO2: 273
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.4 g/dL
   198 K/uL
   146 mg/dL
   1.2 mg/dL
   21 mEq/L
   4.5 mEq/L
   30 mg/dL
   107 mEq/L
   136 mEq/L
   28.1 %
   13.2 K/uL
         [image002.jpg]
                             [**2145-3-2**]  10:53 PM
                             [**2145-3-3**]  12:14 AM
                             [**2145-3-3**]  03:56 AM
                             [**2145-3-3**]  04:22 AM
                             [**2145-3-3**]  01:06 PM
                             [**2145-3-3**]  04:17 PM
                             [**2145-3-4**]  02:59 AM
                             [**2145-3-4**]  03:39 AM
                             [**2145-3-4**]  06:06 PM
                             [**2145-3-5**]  04:22 AM
   WBC
   13.2
   12.9
   13.2
   Hct
   26.1
   27.2
   28.1
   Plt
   181
   182
   198
   Cr
   0.9
   0.9
   1.0
   1.2
   TropT
   0.01
   TCO2
   24
   25
   24
   22
   24
   23
   Glucose
   144
   151
   162
   146
   Other labs: PT / PTT / INR:14.6/29.0/1.3, CK / CKMB /
   Troponin-T:38/3/0.01, ALT / AST:41/23, Alk Phos / T Bili:120/0.6,
   Differential-Neuts:86.5 %, Band:36.0 %, Lymph:8.6 %, Mono:4.1 %,
   Eos:0.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL, Ca++:8.2 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 SHOCK, CARDIOGENIC
 INEFFECTIVE COPING
 BRADYCARDIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ELECTROLYTE & FLUID DISORDER, OTHER
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), All present
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: L base)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Cool, warming blanket
   Neurologic: Responds to: deep sedation
    84 yo female with Septic + cardiogenic shock with multiple valvular
   abnormalities
   1. ID: Wean down abx: d/c levoflox. Continue Vanc + Zosyn x 7 days
   2. Cards consult to help optimize HR and BP on whiff of pressors with
   multiple  valvular abnormalities, developed Vt with dopamine. ?
   milrinone. ? bradycardia with coreg/digoxin. On stress dose steroids.
   3. Vent: Bronch today, then wean sedation and put on PSV. Consider
   thoracentesis if fails.
   4. Low U/O w/o renal insufficiency: Boluses to see if she responds.
   Diurese after off pressors
   Rest per resident note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2145-3-3**] 05:46 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-3-1**] 12:30 AM
   Arterial Line - [**2145-3-1**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments: Daily discussion with son
   [**Name (NI) 156**] status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent:
   Patient is critically ill
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-3-1**] 12:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent:

2145-03-06 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Off sedation.
   Weaned off vasopressin and levophed since 5pm
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2145-3-4**] 11:49 AM
   Vancomycin - [**2145-3-5**] 11:57 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-3-6**] 06:03 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-3-5**] 08:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-6**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 71 (62 - 78) bpm
   BP: 91/41(53) {91/41(53) - 135/70(86)} mmHg
   RR: 25 (19 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 12 (8 - 21)mmHg
   Total In:
                                                                  1,580 mL
                                                                    614 mL
   PO:
   TF:
                                                                    553 mL
                                                                    309 mL
   IVF:
                                                                    967 mL
                                                                    305 mL
   Blood products:
   Total out:
                                                                  1,025 mL
                                                                    840 mL
   Urine:
                                                                  1,025 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    555 mL
                                                                   -226 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 266 (266 - 266) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 240
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   SpO2: 95%
   ABG: ///25/
   Ve: 2.8 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: All present
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: R
   ronchorous: , Diminished: L base) , pink ETT secretions
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Cool
   Neurologic: somnolent
   Labs / Radiology
   240 K/uL
   9.8 g/dL
   152 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.6 mEq/L
   28 mg/dL
   109 mEq/L
   141 mEq/L
   29.1 %
   15.5 K/uL
        [image002.jpg]
                             [**2145-3-3**]  12:14 AM
                             [**2145-3-3**]  03:56 AM
                             [**2145-3-3**]  04:22 AM
                             [**2145-3-3**]  01:06 PM
                             [**2145-3-3**]  04:17 PM
                             [**2145-3-4**]  02:59 AM
                             [**2145-3-4**]  03:39 AM
                             [**2145-3-4**]  06:06 PM
                             [**2145-3-5**]  04:22 AM
                             [**2145-3-6**]  04:08 AM
   WBC
   13.2
   12.9
   13.2
   15.5
   Hct
   26.1
   27.2
   28.1
   29.1
   Plt
   181
   182
   198
   240
   Cr
   0.9
   0.9
   1.0
   1.2
   1.1
   TropT
   0.01
   TCO2
   25
   24
   22
   24
   23
   Glucose
   144
   151
   162
   146
   152
   Other labs: PT / PTT / INR:13.1/29.0/1.1, CK / CKMB /
   Troponin-T:38/3/0.01, ALT / AST:33/20, Alk Phos / T Bili:136/0.6,
   Differential-Neuts:86.5 %, Band:36.0 %, Lymph:8.6 %, Mono:4.1 %,
   Eos:0.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:348 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:1.8 mg/dL
[**2145-3-3**] 11:30 am BRONCHOALVEOLAR LAVAGE      BRONCHIAL LAVAGE.
   GRAM STAIN (Final [**2145-3-3**]):
      3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):    RESULTS PENDING
[**2145-3-3**] 4:49 am STOOL     CONSISTENCY: FORMED      Source: Stool.
                            **FINAL REPORT [**2145-3-3**]**
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2145-3-3**]):
      Feces negative for C.difficile toxin A & B by EIA.
[**2145-3-2**] 2:45 pm BLOOD CULTURE
      Blood Culture, Routine (Pending):
[**2145-3-1**] 2:56 am SPUTUM     Site: ENDOTRACHEAL
                            **FINAL REPORT [**2145-3-3**]**
   GRAM STAIN (Final [**2145-3-1**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
   RESPIRATORY CULTURE (Final [**2145-3-3**]):
      RARE GROWTH OROPHARYNGEAL FLORA.
   Assessment and Plan
   84y/o F with a PMH of severe Alzheimer's dementia, CAD s/p CABG and
   aortic stenosis admitted with severe septic shock
   # Respiratory Failure (non ARDS)
 the patient has hypoxic respiratory
   failure likely secondary to pulmonary edema as a result of difficult
   hemodynamics in the setting of severe AS and fluid resuscitation from
   her septic shock.  Mixed venous sat low today in the 40s but also has a
   normal lactate.  At this point, the patient most likely is suffering
   from cardiogenic shock, cardiology was consulted, but feel aside from
   valvuloplasty, there is not much from there standpoint left to do.  We
   do not believe she is a candidate for valvuloplasty given her tenuous
   status.
   -          bronchoscopy yesterday showed thick mucous.
   -          Ultrasound of lungs failed to show tapable effusion
   -          wean sedation as tolerated
   # Septic Shock : There continues to be no focal source of infection,
   aside from pansensitive E coli isolated from urine, which we do not
   believe is the source for her decompensation.  Sputum cultures were
   negative and TEE did not find vegetations; blood cultures remain
   negative.  BAL
s show polys.  Currently weaned off Levophed but
   continues on Vasopressin.
   - maintain CVP>10-12 mmHg, MAP>65, cont vasopressin/levophed, off
   stress dose steroids
   - will attempt to wean PEEP, to improve CO in setting of AS
   - continue broad spectrum abx with vanco/zosyn (Vanc DC
d for Level of
   30, repeat level in am)
   - f/u blood cultures
   - d/c stress dose steroids
   # Vomiting: unclear etiology. Restart tubefeeds, start reglan, no
   further episodes
    # Intermittent Bradycardia
 patient is in aflutter with variable
   4-5:1 block. Seems to be vagal response, but improves when not
   stimulated.
   # ?AV Vegetation
 pt with severe AS and calcified valves, also
   suggestion of mobile vegetation on valve, but TEE to evaluate this was
   negative.
   .# ARF
 creatinine starting to creep upwards, which is likely
   secondary to poor forward flow from AS. Urine lytes c/w prerenal
   # CAD s/p CABG - Ruled out ischemia as above. EF 40%
   # Aortic Stenosis
 Severe AS with AV area <0.8cm2, gradient 75, try to
   optimize CO by weaning PEEP as above.  Cardiology following.
   # Severe Alzheimer's Dementia - baseline speaks in monosyllables and
   says yes or no to any questions. PO meds on hold for now
   # Hypothyroidism
 cont. synthroid, TSH mildly elevated, will check T4
   # FEN: replete electrolytes, NPO, TF
   # Prophylaxis: Subcutaneous heparin, VAP bundle, H2 blocker
   # Access: RIJ
   # Code: DNR/ok to intubate
   # Communication: Son
   .# Disposition: pending above; will need to readdress goals of care.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2145-3-5**] 11:00 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-3-1**] 12:30 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: h2
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU
   ------ Protected Section ------
   Respiratory failure = pt is now off pressors, will start diuresis with
   lasix gtt, goal 1L neg today
   ------ Protected Section Addendum Entered By:[**Name (NI) 189**] [**Last Name (NamePattern1) 4508**], MD
   on:[**2145-3-6**] 14:00 ------

2145-03-06 08:40:00 Physician Attending Progress Note
Chief Complaint: Sepsis, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Somewhat more responsive.
   Off pressors
   Not enugh fluid on L for [**Female First Name (un) **] yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2145-3-4**] 11:49 AM
   Vancomycin - [**2145-3-5**] 11:57 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-3-6**] 06:03 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-3-5**] 08:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-6**] 08:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37
C (98.6
   HR: 71 (62 - 78) bpm
   BP: 91/41(53) {91/41(53) - 135/70(86)} mmHg
   RR: 25 (19 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   CVP: 12 (8 - 21)mmHg
   Total In:
                                                                  1,580 mL
                                                                    784 mL
   PO:
   TF:
                                                                    553 mL
                                                                    388 mL
   IVF:
                                                                    967 mL
                                                                    336 mL
   Blood products:
   Total out:
                                                                  1,025 mL
                                                                    960 mL
   Urine:
                                                                  1,025 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    555 mL
                                                                   -176 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 396 (266 - 396) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 240
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   SpO2: 95%
   ABG: ///25/
   Ve: 2.8 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: All present
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: R
   ronchorous: , Diminished: L base) , pink ETT secretions
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Cool, warming blanket off
   Neurologic: somnolent off sedation
Patient grimace to voice.  Moves UE
   bilaterally to painful simtulation and move LE bilaterally to painful
   simuli. PERRL.  Reflexes decreased and tone decreased.
   Labs / Radiology
   9.8 g/dL
   240 K/uL
   152 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.6 mEq/L
   28 mg/dL
   109 mEq/L
   141 mEq/L
   29.1 %
   15.5 K/uL
        [image002.jpg]
                             [**2145-3-3**]  12:14 AM
                             [**2145-3-3**]  03:56 AM
                             [**2145-3-3**]  04:22 AM
                             [**2145-3-3**]  01:06 PM
                             [**2145-3-3**]  04:17 PM
                             [**2145-3-4**]  02:59 AM
                             [**2145-3-4**]  03:39 AM
                             [**2145-3-4**]  06:06 PM
                             [**2145-3-5**]  04:22 AM
                             [**2145-3-6**]  04:08 AM
   WBC
   13.2
   12.9
   13.2
   15.5
   Hct
   26.1
   27.2
   28.1
   29.1
   Plt
   181
   182
   198
   240
   Cr
   0.9
   0.9
   1.0
   1.2
   1.1
   TropT
   0.01
   TCO2
   25
   24
   22
   24
   23
   Glucose
   144
   151
   162
   146
   152
   Other labs: PT / PTT / INR:13.1/29.0/1.1, CK / CKMB /
   Troponin-T:38/3/0.01, ALT / AST:33/20, Alk Phos / T Bili:136/0.6,
   Differential-Neuts:86.5 %, Band:36.0 %, Lymph:8.6 %, Mono:4.1 %,
   Eos:0.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:348 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:1.8 mg/dL
   CXR: L small effusion, lung op[en, R infiltrate improved
   Assessment and Plan
 SHOCK, CARDIOGENIC
 INEFFECTIVE COPING
 BRADYCARDIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ELECTROLYTE & FLUID DISORDER, OTHER
    84 yo female with Septic + cardiogenic shock with multiple valvular
   abnormalities, tight AS not a candidate for valvuloplasty
   Sepsis: resolved. Watch low grade fever and EBC count. ? D/c central
   line tomorrow, look for peripherals
   Resp: barriers to weaning: R aspiration pneumonia, L mucus plug,
   cardiogenic pulm edema, untappable L pleral effusion.
   PS trial
   Diurese slowly since off pressors
   Complete abx x 8 days
   BAL: 4+ polys, no orgms
   Altered mental status: off sedation x 48 hrs. check urine for opiates
   and benzos for residual sedatives, if neg, will need CT head and EEG.
   Renal: U/O good now. Likely due to poor forward flow. Lasix drip today.
   GI: tolerating feeds
   Rest per resident note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2145-3-3**] 05:46 PM 35 mL/hour
   Glycemic Control:  riss
   Lines:
   Multi Lumen - [**2145-3-1**] 12:30 AM
   Arterial Line - [**2145-3-1**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: ppi
   VAP: bundle
   Comments:
   Communication:  Comments: Daily discussion with son
   [**Name (NI) 156**] status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent:  45 min
   Patient is critically ill

2145-03-07 07:18:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
   The patient was started on a lasix gtt yesterday with net out approx
   1.2L
   BP stable off pressors
   Slow to arouse following DC of sedation, urine tox still positive for
   benzos
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2145-3-4**] 11:49 AM
   Vancomycin - [**2145-3-5**] 11:57 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-3-7**] 06:05 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-3-7**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-7**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.6
C (99.6
   HR: 79 (71 - 87) bpm
   BP: 94/78(82) {83/41(52) - 162/78(82)} mmHg
   RR: 22 (18 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 10 (7 - 22)mmHg
   Total In:
                                                                  2,388 mL
                                                                  1,064 mL
   PO:
   TF:
                                                                  1,078 mL
                                                                    327 mL
   IVF:
                                                                    800 mL
                                                                    537 mL
   Blood products:
   Total out:
                                                                  3,480 mL
                                                                  1,500 mL
   Urine:
                                                                  3,480 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,092 mL
                                                                   -436 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 218 (218 - 482) mL
   PS : 18 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 157
   PIP: 27 cmH2O
   Plateau: 18 cmH2O
   SpO2: 94%
   ABG: ///29/
   Ve: 9.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   241 K/uL
   9.3 g/dL
   139 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.4 mEq/L
   20 mg/dL
   109 mEq/L
   146 mEq/L
   26.9 %
   14.0 K/uL
        [image002.jpg]
                             [**2145-3-3**]  01:06 PM
                             [**2145-3-3**]  04:17 PM
                             [**2145-3-4**]  02:59 AM
                             [**2145-3-4**]  03:39 AM
                             [**2145-3-4**]  06:06 PM
                             [**2145-3-5**]  04:22 AM
                             [**2145-3-6**]  04:08 AM
                             [**2145-3-6**]  03:19 PM
                             [**2145-3-6**]  08:46 PM
                             [**2145-3-7**]  04:16 AM
   WBC
   12.9
   13.2
   15.5
   14.0
   Hct
   27.2
   28.1
   29.1
   26.9
   Plt
   182
   198
   240
   241
   Cr
   0.9
   1.0
   1.2
   1.1
   1.0
   0.9
   0.9
   TCO2
   22
   24
   23
   Glucose
   151
   162
   146
   152
   154
   139
   Other labs: PT / PTT / INR:14.0/33.8/1.2, CK / CKMB /
   Troponin-T:38/3/0.01, ALT / AST:33/20, Alk Phos / T Bili:136/0.6,
   Differential-Neuts:86.5 %, Band:36.0 %, Lymph:8.6 %, Mono:4.1 %,
   Eos:0.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:348 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR [**3-6**] - FINDINGS: Support lines and tubes in stable
   position. There is slight
   improvement in the aeration of the right lung base, with substantial
   residual
   consolidation or atelectasis. Left base opacity persists, likely
   representing
   any combination of effusion and atelectasis. Mediastinal contours are
   unchanged. Osseous structures are stable.
   IMPRESSION: Slight improvement in aeration at the right base.
   Otherwise, no
   major change.
   Microbiology: [**2145-3-3**] 11:30 am BRONCHOALVEOLAR LAVAGE      BRONCHIAL
   LAVAGE.
                               **FINAL REPORT [**2145-3-6**]**
      GRAM STAIN (Final [**2145-3-3**]):
         3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2145-3-6**]):    ~[**2136**]/ML OROPHARYNGEAL
   FLORA02/04/09 4:49 am STOOL     CONSISTENCY: FORMED      Source: Stool.
                               **FINAL REPORT [**2145-3-3**]**
      CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2145-3-3**]):
         Feces negative for C.difficile toxin A & B by EIA.
   [**2145-3-2**] 2:45 pm BLOOD CULTURE
      Blood Culture, Routine (Pending):
   [**2145-2-28**] 10:35 pm URINE     Site: CATHETER
                               **FINAL REPORT [**2145-3-4**]**
      URINE CULTURE (Final [**2145-3-4**]):
         ESCHERICHIA COLI.    10,000-100,000 ORGANISMS/ML..
            PRESUMPTIVE IDENTIFICATION.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                ESCHERICHIA COLI
                                |
   AMPICILLIN------------     4 S
   AMPICILLIN/SULBACTAM--   <=2 S
   CEFAZOLIN-------------   <=4 S
   CEFEPIME--------------   <=1 S
   CEFTAZIDIME-----------   <=1 S
   CEFTRIAXONE-----------   <=1 S
   CEFUROXIME------------     4 S
   CIPROFLOXACIN---------<=0.25 S
   GENTAMICIN------------   <=1 S
   MEROPENEM-------------<=0.25 S
   NITROFURANTOIN--------  <=16 S
   PIPERACILLIN----------   <=4 S
   PIPERACILLIN/TAZO-----   <=4 S
   TOBRAMYCIN------------   <=1 S
   TRIMETHOPRIM/SULFA----   <=1 S
   Assessment and Plan
   84y/o F with a PMH of severe Alzheimer's dementia, CAD s/p CABG and
   aortic stenosis admitted with severe septic shock
   # Respiratory Failure (non ARDS)
 the patient has hypoxic respiratory
   failure likely secondary to pulmonary edema as a result of difficult
   hemodynamics in the setting of severe AS and fluid resuscitation from
   her septic shock.  Mixed venous sat low today in the 40s but also has a
   normal lactate.  At this point, the patient most likely is suffering
   from cardiogenic shock, cardiology was consulted, but feel aside from
   valvuloplasty, there is not much from there standpoint left to do.  We
   do not believe she is a candidate for valvuloplasty given her tenuous
   status.
   -          bronchoscopy showed thick mucous.
   -          Ultrasound of lungs failed to show tapable effusion
   -          sedation weaned off
   - lasix gtt started for pulm edema, net goal 1L neg daily
   # Septic Shock : There continues to be no focal source of infection,
   aside from pansensitive E coli isolated from urine, which we do not
   believe is the source for her decompensation.  Sputum cultures were
   negative and TEE did not find vegetations; blood cultures remain
   negative.  BAL
s show polys.  Currently weaned off Levophed but
   continues on Vasopressin.
   - maintain CVP>10-12 mmHg, MAP>65, cont vasopressin/levophed, off
   stress dose steroids
   - will attempt to wean PEEP, to improve CO in setting of AS
   - continue broad spectrum abx with vanco/zosyn (Vanc DC
d for Level of
   30, repeat level in am)
   - f/u blood cultures
   .
   # UTI
 pan-sensitive E. Coli culture date [**2-28**]
 pt on zosyn for PNA as
   above
   .
   # Vomiting: unclear etiology. Restart tubefeeds, start reglan, no
   further episodes
    # Intermittent Bradycardia
 patient is in aflutter with variable
   4-5:1 block. Seems to be vagal response, but improves when not
   stimulated.
   # ?AV Vegetation
 pt with severe AS and calcified valves, also
   suggestion of mobile vegetation on valve, but TEE to evaluate this was
   negative.
   .# ARF
 creatinine starting to creep upwards, which is likely
   secondary to poor forward flow from AS. Urine lytes c/w prerenal
   # CAD s/p CABG - Ruled out ischemia as above. EF 40%
   # Aortic Stenosis
 Severe AS with AV area <0.8cm2, gradient 75, try to
   optimize CO by weaning PEEP as above.  Cardiology following.
   # Severe Alzheimer's Dementia - baseline speaks in monosyllables and
   says yes or no to any questions. PO meds on hold for now
   # Hypothyroidism
 cont. synthroid, TSH mildly elevated, will check T4
   # FEN: replete electrolytes, NPO, TF
   # Prophylaxis: Subcutaneous heparin, VAP bundle, H2 blocker
   # Access: RIJ
   # Code: DNR/ok to intubate
   # Communication: Son
   .# Disposition: pending above; will need to readdress goals of care.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2145-3-6**] 10:20 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-3-1**] 12:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2145-03-07 08:18:00 Physician Attending Progress Note
Chief Complaint: Septic shock, severe AS
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   tolerated diuresis well with lasix drip yesterday, but hypotensive this
   am. Peep 5.
   slow to arouse off sedation, urine tox + benzos
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2145-3-4**] 11:49 AM
   Vancomycin - [**2145-3-5**] 11:57 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-3-7**] 06:05 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-3-7**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-7**] 08:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.6
C (99.6
   HR: 79 (71 - 87) bpm
   BP: 94/78(82) {83/41(52) - 162/78(82)} mmHg
   RR: 22 (18 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   CVP: 10 (7 - 16)mmHg
   Total In:
                                                                  2,388 mL
                                                                  1,526 mL
   PO:
   TF:
                                                                  1,078 mL
                                                                    372 mL
   IVF:
                                                                    800 mL
                                                                    803 mL
   Blood products:
   Total out:
                                                                  3,480 mL
                                                                  1,760 mL
   Urine:
                                                                  3,480 mL
                                                                  1,760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,092 mL
                                                                   -229 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 218 (218 - 482) mL
   PS : 18 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 157
   PIP: 27 cmH2O
   Plateau: 18 cmH2O
   SpO2: 94%
   ABG: ///29/
   Ve: 9.6 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: All present
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: ronchorous
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Cool, warming blanket off
   Neurologic: more awake today, moving upper arms spontaneously, lower
   legs withdraw with plater reflex but no spontaneous movt. No tone in
   any limbs.
   Labs / Radiology
   9.3 g/dL
   241 K/uL
   139 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.4 mEq/L
   20 mg/dL
   109 mEq/L
   146 mEq/L
   26.9 %
   14.0 K/uL
        [image002.jpg]
                             [**2145-3-3**]  01:06 PM
                             [**2145-3-3**]  04:17 PM
                             [**2145-3-4**]  02:59 AM
                             [**2145-3-4**]  03:39 AM
                             [**2145-3-4**]  06:06 PM
                             [**2145-3-5**]  04:22 AM
                             [**2145-3-6**]  04:08 AM
                             [**2145-3-6**]  03:19 PM
                             [**2145-3-6**]  08:46 PM
                             [**2145-3-7**]  04:16 AM
   WBC
   12.9
   13.2
   15.5
   14.0
   Hct
   27.2
   28.1
   29.1
   26.9
   Plt
   182
   198
   240
   241
   Cr
   0.9
   1.0
   1.2
   1.1
   1.0
   0.9
   0.9
   TCO2
   22
   24
   23
   Glucose
   151
   162
   146
   152
   154
   139
   Other labs: PT / PTT / INR:14.0/33.8/1.2, CK / CKMB /
   Troponin-T:38/3/0.01, ALT / AST:33/20, Alk Phos / T Bili:136/0.6,
   Differential-Neuts:86.5 %, Band:36.0 %, Lymph:8.6 %, Mono:4.1 %,
   Eos:0.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:348 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   CXR: stable
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SHOCK, CARDIOGENIC
 INEFFECTIVE COPING
 BRADYCARDIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ELECTROLYTE & FLUID DISORDER, OTHER
   84 yo female with Septic + cardiogenic shock with multiple valvular
   abnormalities, tight AS not a candidate for valvuloplasty  due to
   comorbidities.
   Sepsis: resolved. Watch low grade fever and WBC count. ? D/c central
   line tomorrow, look for peripherals
   Resp/Vent: barriers to weaning: R aspiration pneumonia, L mucus plug,
   cardiogenic pulm edema, untappable L pleral effusion, residual sedation
   with positive urine tox. Continue pulm toilet. Daily PST and SBT.
   Diurese as BP allows.
   Altered mental status: off sedation but urine tox +. More awake today.
   Consider CT head and EEG if doesn
t resolve. Loss of tone likely due to
   critical illness neuropathy.
   GI: tolerating feeds
   Rest per resident note.
   14:50
 Patient opening eyes but not interacting with staff.  Now on
   PSV 15/5 with good O2 sats. Chest with scattered coarse large airway
   sounds. Cor: II/VI harsh systolic  murmur at the base; no gallop.
   Abdomen soft;  no guarding. Extremities cool; 1+ edema.
   Continue plan for weaning from mechanical ventilation. Replete free
   water.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2145-3-3**] 05:46 PM 35 mL/hour
   Glycemic Control:  riss
   Lines:
   Multi Lumen - [**2145-3-1**] 12:30 AM
   Arterial Line - [**2145-3-1**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: h2 blocker
   VAP: bundle
   Comments:
   Communication:  Comments: Daily discussion with son
   [**Name (NI) 156**] status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent:  45 min
   Patient is critically ill

2145-03-08 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient intermittently hypotensive yesterday morning to the 80s. Lasix
   gtt stopped.
   BP stable into the evening and Lasix gtt restarted overnight.  +200cc
   by midnight.  -1L since midnight.
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-3-5**] 11:57 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-3-8**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 0.5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-8**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (99
   HR: 72 (72 - 85) bpm
   BP: 93/54(63) {67/35(49) - 119/96(101)} mmHg
   RR: 20 (14 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 16 (9 - 19)mmHg
   Total In:
                                                                  3,758 mL
                                                                    344 mL
   PO:
   TF:
                                                                  1,072 mL
   IVF:
                                                                  1,555 mL
                                                                    344 mL
   Blood products:
   Total out:
                                                                  3,515 mL
                                                                  1,310 mL
   Urine:
                                                                  3,515 mL
                                                                  1,310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    243 mL
                                                                   -966 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 445 (317 - 489) mL
   PS : 15 cmH2O
   RR (Set): 10
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 148
   PIP: 21 cmH2O
   SpO2: 96%
   ABG: ///30/
   Ve: 5.8 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: All present
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   rhonchorous)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  warm
   Neuro: Eyes open, very responsive to touch including lower ext, not
   following commands.
   Labs / Radiology
   250 K/uL
   8.9 g/dL
   94 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.0 mEq/L
   16 mg/dL
   105 mEq/L
   141 mEq/L
   26.9 %
   13.7 K/uL
        [image002.jpg]
                             [**2145-3-4**]  03:39 AM
                             [**2145-3-4**]  06:06 PM
                             [**2145-3-5**]  04:22 AM
                             [**2145-3-6**]  04:08 AM
                             [**2145-3-6**]  03:19 PM
                             [**2145-3-6**]  08:46 PM
                             [**2145-3-7**]  04:16 AM
                             [**2145-3-7**]  05:18 PM
                             [**2145-3-7**]  07:16 PM
                             [**2145-3-8**]  04:16 AM
   WBC
   13.2
   15.5
   14.0
   13.7
   Hct
   28.1
   29.1
   26.9
   26.9
   Plt
   198
   240
   241
   250
   Cr
   1.2
   1.1
   1.0
   0.9
   0.9
   0.5
   0.8
   0.8
   TCO2
   24
   23
   Glucose
   146
   152
   154
   139
   92
   143
   94
   Other labs: PT / PTT / INR:13.3/32.3/1.1, CK / CKMB /
   Troponin-T:38/3/0.01, ALT / AST:33/20, Alk Phos / T Bili:136/0.6,
   Differential-Neuts:86.5 %, Band:36.0 %, Lymph:8.6 %, Mono:4.1 %,
   Eos:0.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:348 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   84y/o F with a PMH of severe Alzheimer's dementia, CAD s/p CABG and
   aortic stenosis admitted with severe septic shock
   # Respiratory Failure (non ARDS)
 Multiple components which include
   sepsis which required fluid resuscitation in the setting of
   hypotension.  Patient now with pulmonary edema [**3-1**] fluid overload and
   severe aortic stenosis, but s/p lasix gtt diuresis with some
   hypotension.  Also with left pleural effusion as well which is not
   amenable to tap via U/S.  Cardiology following but consensus is that
   patient is not a candidate for aortic valvuloplasty at this time.
   Component of contraction alkalosis today, will hold on further diuresis
   as patient seems to be [**Last Name (un) 631**] [**Doctor Last Name 632**] breathing as well.
   -          Continue to wean vent, OOB to chair. Aggressive pulm toilet
   -          hold diuresis
   # Septic Shock :  +UTI with only 10.000-100.000 organisms which makes
   this source unlikely.  Plan is to treat for 7 days with Vanco/Zosyn as
   there is no clear source at this time, today is last day.
   - maintain CVP>10-12 mmHg, MAP>65,
   - continue broad spectrum abx with vanco/zosyn
   - f/u blood cultures
   # UTI
 pan-sensitive E. Coli culture date [**2-28**]
 pt on zosyn for PNA as
   above, will complete 7 day course
   # ?AV Vegetation
 pt with severe AS and calcified valves, also
   suggestion of mobile vegetation on valve, but TEE to evaluate this was
   negative.
   # ARF
 currently resolved, will cont to monitor in setting of diuresis
   # CAD s/p CABG - Ruled out ischemia as above. EF 40%
   # Aortic Stenosis
 Severe AS with AV area <0.8cm2, gradient 75,
   Cardiology following.
   # Severe Alzheimer's Dementia - baseline speaks in monosyllables and
   says yes or no to any questions. PO meds on hold for now
   # Hypothyroidism
 cont. synthroid
   # FEN: replete electrolytes, NPO, TF
   # Prophylaxis: Subcutaneous heparin, VAP bundle, H2 blocker
   # Access: RIJ
   # Code: DNR/DNI
 discussed with son
 not to re-intubate after
   extubation. Ok with bipap if necessary.
   # Communication: Son
   .# Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-3-1**] 12:30 AM
   20 Gauge - [**2145-3-7**] 01:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2145-03-08 10:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Lasix drip restarted, neg 1 L, the SBP 80
   Mental status still restless, not following commands
   Put back on rate due to restlessness and tachypnea, likely [**Last Name (un) 631**]
   [**Doctor Last Name 632**], RSBI 140
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-3-5**] 11:57 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-3-8**] 06:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2145-3-8**] 08:06 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-8**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 71 (71 - 85) bpm
   BP: 114/43(60) {67/35(49) - 122/96(101)} mmHg
   RR: 11 (11 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   CVP: 3 (3 - 19)mmHg
   Total In:
                                                                  3,758 mL
                                                                    458 mL
   PO:
   TF:
                                                                  1,072 mL
   IVF:
                                                                  1,555 mL
                                                                    418 mL
   Blood products:
   Total out:
                                                                  3,515 mL
                                                                  1,645 mL
   Urine:
                                                                  3,515 mL
                                                                  1,645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    243 mL
                                                                 -1,187 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 415 (317 - 489) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 148
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 96%
   ABG: ///30/
   Ve: 7.9 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: All present
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: ronchorous
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Cool, warming blanket off
    Neurologic: more awake today, moving limbs with stimulation. No tone
   in any limbs.
   Labs / Radiology
   8.9 g/dL
   250 K/uL
   94 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.0 mEq/L
   16 mg/dL
   105 mEq/L
   141 mEq/L
   26.9 %
   13.7 K/uL
        [image002.jpg]
                             [**2145-3-4**]  03:39 AM
                             [**2145-3-4**]  06:06 PM
                             [**2145-3-5**]  04:22 AM
                             [**2145-3-6**]  04:08 AM
                             [**2145-3-6**]  03:19 PM
                             [**2145-3-6**]  08:46 PM
                             [**2145-3-7**]  04:16 AM
                             [**2145-3-7**]  05:18 PM
                             [**2145-3-7**]  07:16 PM
                             [**2145-3-8**]  04:16 AM
   WBC
   13.2
   15.5
   14.0
   13.7
   Hct
   28.1
   29.1
   26.9
   26.9
   Plt
   198
   240
   241
   250
   Cr
   1.2
   1.1
   1.0
   0.9
   0.9
   0.5
   0.8
   0.8
   TCO2
   24
   23
   Glucose
   146
   152
   154
   139
   92
   143
   94
   Other labs: PT / PTT / INR:13.3/32.3/1.1, CK / CKMB /
   Troponin-T:38/3/0.01, ALT / AST:33/20, Alk Phos / T Bili:136/0.6,
   Differential-Neuts:86.5 %, Band:36.0 %, Lymph:8.6 %, Mono:4.1 %,
   Eos:0.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:348 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR: Increased pleural effusion L side vs atelectasis
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SHOCK, CARDIOGENIC
 INEFFECTIVE COPING
 BRADYCARDIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ELECTROLYTE & FLUID DISORDER, OTHER
   84 yo female with Septic + cardiogenic shock with multiple valvular
   abnormalities, tight AS not a candidate for valvuloplasty  due to
   comorbidities.
   Sepsis: resolved. Watch low grade fever and WBC count. ? D/c central
   line tomorrow, look for peripherals
   Resp/Vent: barriers to weaning:  mucus plug, ? R pleural
   effusion..mental status much improved. Continue pulm toilet. Add chest
   PT. Daily PST and SBT sitting in chair. Fluid status optimal.
   Altered mental status: much improved mental status
   GI: tolerating feeds, held for potential extubation
   Rest per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2145-3-1**] 12:30 AM
   20 Gauge - [**2145-3-7**] 01:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Daily discussion with son
   [**Name (NI) 156**] status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill

2145-03-09 06:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2145-3-8**] 12:00 PM
   patient became hypotensive persistently yesterday evening with drop off
   in UOP, required two 250 NS boluses. Unable to restart lasix gtt [**3-1**]
   hypotension.
   Failed trial of 0/0
   Vanco/Zosyn finished yesterday and were d/c'd.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-3-8**] 12:41 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2145-3-8**] 08:06 AM
   Heparin Sodium (Prophylaxis) - [**2145-3-8**] 12:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-9**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98
   HR: 70 (58 - 74) bpm
   BP: 86/41(52) {79/41(51) - 122/78(83)} mmHg
   RR: 14 (11 - 26) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 60 Inch
    CVP: 10 (3 - 13)mmHg
   Total In:
                                                                  1,769 mL
                                                                    356 mL
   PO:
   TF:
                                                                    510 mL
                                                                    291 mL
   IVF:
                                                                  1,099 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  2,287 mL
                                                                    178 mL
   Urine:
                                                                  2,287 mL
                                                                    178 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -518 mL
                                                                    178 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 121 (121 - 415) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: ///31/
   Ve: 8.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   266 K/uL
   8.3 g/dL
   119 mg/dL
   0.8 mg/dL
   31 mEq/L
   4.0 mEq/L
   18 mg/dL
   106 mEq/L
   143 mEq/L
   24.3 %
   10.2 K/uL
        [image002.jpg]
                             [**2145-3-4**]  06:06 PM
                             [**2145-3-5**]  04:22 AM
                             [**2145-3-6**]  04:08 AM
                             [**2145-3-6**]  03:19 PM
                             [**2145-3-6**]  08:46 PM
                             [**2145-3-7**]  04:16 AM
                             [**2145-3-7**]  05:18 PM
                             [**2145-3-7**]  07:16 PM
                             [**2145-3-8**]  04:16 AM
                             [**2145-3-9**]  05:15 AM
   WBC
   13.2
   15.5
   14.0
   13.7
   10.2
   Hct
   28.1
   29.1
   26.9
   26.9
   24.3
   Plt
   198
   240
   241
   250
   266
   Cr
   1.2
   1.1
   1.0
   0.9
   0.9
   0.5
   0.8
   0.8
   0.8
   TCO2
   23
   Glucose
   146
   152
   154
   139
   92
   143
   94
   119
   Other labs: PT / PTT / INR:13.3/32.3/1.1, CK / CKMB /
   Troponin-T:38/3/0.01, ALT / AST:33/20, Alk Phos / T Bili:136/0.6,
   Differential-Neuts:86.5 %, Band:36.0 %, Lymph:8.6 %, Mono:4.1 %,
   Eos:0.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:348 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 AORTIC STENOSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SHOCK, CARDIOGENIC
 INEFFECTIVE COPING
 BRADYCARDIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ELECTROLYTE & FLUID DISORDER, OTHER
   84y/o F with a PMH of severe Alzheimer's dementia, CAD s/p CABG and
   aortic stenosis admitted with severe septic shock
   # Respiratory Failure (non ARDS)
 Multiple components which include
   sepsis which required fluid resuscitation in the setting of
   hypotension.  Patient now with pulmonary edema [**3-1**] fluid overload and
   severe aortic stenosis, but s/p lasix gtt diuresis with some
   hypotension.  Also with left pleural effusion as well which is not
   amenable to tap via U/S.  Cardiology following but consensus is that
   patient is not a candidate for aortic valvuloplasty at this time.
   Component of contraction alkalosis today, will hold on further diuresis
   as patient seems to be [**Last Name (un) 631**] [**Doctor Last Name 632**] breathing as well.
   -          Continue to wean vent, OOB to chair. Aggressive pulm toilet
   -          hold diuresis
   # Septic Shock :  +UTI with only 10.000-100.000 organisms which makes
   this source unlikely.  Plan is to treat for 7 days with Vanco/Zosyn as
   there is no clear source at this time, today is last day.
   - maintain CVP>10-12 mmHg, MAP>65,
   - continue broad spectrum abx with vanco/zosyn
   - f/u blood cultures
   # UTI
 pan-sensitive E. Coli culture date [**2-28**]
 pt on zosyn for PNA as
   above, will complete 7 day course
   # ?AV Vegetation
 pt with severe AS and calcified valves, also
   suggestion of mobile vegetation on valve, but TEE to evaluate this was
   negative.
   # ARF
 currently resolved, will cont to monitor in setting of diuresis
   # CAD s/p CABG - Ruled out ischemia as above. EF 40%
   # Aortic Stenosis
 Severe AS with AV area <0.8cm2, gradient 75,
   Cardiology following.
   # Severe Alzheimer's Dementia - baseline speaks in monosyllables and
   says yes or no to any questions. PO meds on hold for now
   # Hypothyroidism
 cont. synthroid
   # FEN: replete electrolytes, NPO, TF
   # Prophylaxis: Subcutaneous heparin, VAP bundle, H2 blocker
   # Access: RIJ
   # Code: DNR/DNI
 discussed with son
 not to re-intubate after
   extubation. Ok with bipap if necessary.
   # Communication: Son
   .# Disposition: pending above
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2145-3-8**] 11:47 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-3-1**] 12:30 AM
   20 Gauge - [**2145-3-7**] 01:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2145-03-09 11:15:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2145-3-8**] 12:00 PM
   Hypotension resolved with fluid boluses.
   Failed SBT yesterday from tachypnea, no desats
   Finished abx
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-3-8**] 12:41 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-3-8**] 12:40 PM
   Famotidine (Pepcid) - [**2145-3-9**] 07:59 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-9**] 11:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.6
C (96.1
   HR: 71 (58 - 74) bpm
   BP: 86/44(54) {79/41(51) - 120/78(83)} mmHg
   RR: 14 (14 - 21) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
   CVP: 5 (5 - 13)mmHg
   Total In:
                                                                  1,769 mL
                                                                    651 mL
   PO:
   TF:
                                                                    510 mL
                                                                    490 mL
   IVF:
                                                                  1,099 mL
                                                                    111 mL
   Blood products:
   Total out:
                                                                  2,287 mL
                                                                    276 mL
   Urine:
                                                                  2,287 mL
                                                                    276 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -518 mL
                                                                    375 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 121 (121 - 121) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   SpO2: 97%
   ABG: VBG: pend
   Ve: 6.7 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: All present
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: ronchorous
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Cool, warming blanket off
    Neurologic: more awake today, moving limbs with stimulation. No tone
   in any limbs.
   Labs / Radiology
   8.3 g/dL
   266 K/uL
   119 mg/dL
   0.8 mg/dL
   31 mEq/L
   4.0 mEq/L
   18 mg/dL
   106 mEq/L
   143 mEq/L
   24.3 %
   10.2 K/uL
        [image002.jpg]
                             [**2145-3-4**]  06:06 PM
                             [**2145-3-5**]  04:22 AM
                             [**2145-3-6**]  04:08 AM
                             [**2145-3-6**]  03:19 PM
                             [**2145-3-6**]  08:46 PM
                             [**2145-3-7**]  04:16 AM
                             [**2145-3-7**]  05:18 PM
                             [**2145-3-7**]  07:16 PM
                             [**2145-3-8**]  04:16 AM
                             [**2145-3-9**]  05:15 AM
   WBC
   13.2
   15.5
   14.0
   13.7
   10.2
   Hct
   28.1
   29.1
   26.9
   26.9
   24.3
   Plt
   198
   240
   241
   250
   266
   Cr
   1.2
   1.1
   1.0
   0.9
   0.9
   0.5
   0.8
   0.8
   0.8
   TCO2
   23
   Glucose
   146
   152
   154
   139
   92
   143
   94
   119
   Other labs: PT / PTT / INR:13.3/32.3/1.1, CK / CKMB /
   Troponin-T:38/3/0.01, ALT / AST:33/20, Alk Phos / T Bili:136/0.6,
   Differential-Neuts:86.5 %, Band:36.0 %, Lymph:8.6 %, Mono:4.1 %,
   Eos:0.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:348 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR: Small effusions, R atelectatic
   Assessment and Plan
 AORTIC STENOSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SHOCK, CARDIOGENIC
 INEFFECTIVE COPING
 BRADYCARDIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ELECTROLYTE & FLUID DISORDER, OTHER
   84 yo female with resolved septic + cardiogenic shock with multiple
   valvular abnormalities, tight AS not a candidate for valvuloplasty  due
   to comorbidities.
   Sepsis: resolved. off abx. D/c central line after peripherals placed.
   Resp/Vent: Stable on [**6-1**]..extubate to FM, ? bipap if needed. Check VBG.
   Son wishes [**Name2 (NI) **] after extubation if she doesnt tolerate. Fluid status
   optimal, keep I/O even to neg with albumin support
   Altered mental status: much improved mental status
   GI: tolerating feeds, hold for potential extubation
   Rest per resident note.
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2145-3-1**] 12:30 AM
   20 Gauge - [**2145-3-7**] 01:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Daily discussion with son
   [**Name (NI) 156**] status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill

2145-03-10 06:20:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2145-3-9**] 12:03 PM
   started [**3-1**]
   The patient was extubated yest am without complication
   Continued on lasix gtt
   Last evening developed acute respiratory distress with CXR and exam c/w
   pulmonary edema, with likely addition of mucus plugging on L lobe, pt
   given 40mg IV lasix bolus, morphine 2mg IV, lopressor 5mg IV and was
   placed on bipap 15/8. This am she was weaned to  Venturi mask 40 %
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-3-8**] 12:41 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2145-3-9**] 07:59 AM
   Furosemide (Lasix) - [**2145-3-9**] 08:30 PM
   Morphine Sulfate - [**2145-3-9**] 08:40 PM
   Metoprolol - [**2145-3-9**] 08:59 PM
   Heparin Sodium (Prophylaxis) - [**2145-3-10**] 03:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-10**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 70 (69 - 106) bpm
   BP: 108/45(58) {86/42(54) - 175/102(106)} mmHg
   RR: 25 (14 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 5 (5 - 5)mmHg
   Mixed Venous O2% Sat: 60 - 60
                                Total In:
                                                                    814 mL
                                                                     62 mL
   PO:
                                TF:
                                                                    459 mL
   IVF:
                                                                    304 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  1,486 mL
                                                                  1,170 mL
   Urine:
                                                                  1,486 mL
                                                                  1,170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -672 mL
                                                                 -1,108 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Set): 300 (300 - 450) mL
   Vt (Spontaneous): 564 (422 - 564) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 95%
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   bases), (Breath Sounds: Crackles : bases, Rhonchorous: upper
   airways/ant), using accessory muscles of respiration
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, awake
   Labs / Radiology
   328 K/uL
   8.5 g/dL
   90 mg/dL
   0.7 mg/dL
   34 mEq/L
   4.1 mEq/L
   15 mg/dL
   103 mEq/L
   141 mEq/L
   25.5 %
   12.3 K/uL
        [image002.jpg]
                             [**2145-3-6**]  03:19 PM
                             [**2145-3-6**]  08:46 PM
                             [**2145-3-7**]  04:16 AM
                             [**2145-3-7**]  05:18 PM
                             [**2145-3-7**]  07:16 PM
                             [**2145-3-8**]  04:16 AM
                             [**2145-3-9**]  05:15 AM
                             [**2145-3-9**]  04:27 PM
                             [**2145-3-10**]  01:33 AM
                             [**2145-3-10**]  03:57 AM
   WBC
   14.0
   13.7
   10.2
   12.3
   Hct
   26.9
   26.9
   24.3
   25.5
   Plt
   241
   250
   266
   328
   Cr
   1.0
   0.9
   0.9
   0.5
   0.8
   0.8
   0.8
   0.7
   0.8
   0.7
   Glucose
   154
   139
   92
   143
   94
   119
   101
   94
   90
   Other labs: PT / PTT / INR:14.0/30.2/1.2, CK / CKMB /
   Troponin-T:38/3/0.01, ALT / AST:33/20, Alk Phos / T Bili:136/0.6,
   Differential-Neuts:86.5 %, Band:36.0 %, Lymph:8.6 %, Mono:4.1 %,
   Eos:0.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:348 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR [**3-9**] - FINDINGS: In comparison with study of [**3-8**], the
   various support and monitoring
   devices remain in place in this patient who has undergone a previous
   CABG
   procedure. The right pleural effusion is again seen with layering along
   the
   lateral pleural space. Smaller left effusion persists. Bibasilar
   atelectatic
   change is seen. The elevation of pulmonary venous pressure appears
   somewhat
   more prominent on the current study.
   Assessment and Plan:
   84y/o F with a PMH of severe Alzheimer's dementia, CAD s/p CABG and
   aortic stenosis admitted with severe septic shock
   # Respiratory Failure (non ARDS)
 Multiple components which include
   sepsis and ?PNA which required fluid resuscitation in the setting of
   hypotension.  Patient now with pulmonary edema [**3-1**] fluid overload and
   severe aortic stenosis.  Patient has been more alert and decision was
   to extubate this morning, currently doing well.
   -       intermittent BIPAP as needed
   -       encourage cough, frequent suctioning
   # Septic Shock :  +UTI with only 10.000-100.000 organisms which makes
   this source unlikely.  Patient has completed course of Vanco/Zosyn
   - maintain CVP>10-12 mmHg, MAP>65,
   - f/u blood cultures
    # UTI
 pan-sensitive E. Coli culture date [**2-28**]
 pt on zosyn for PNA
   as above, completed 7 day course
    # ARF
 currently resolved, will cont to monitor in setting of
   diuresis
    # CAD s/p CABG - Ruled out ischemia as above. EF 40%
    # Aortic Stenosis
 Severe AS with AV area <0.8cm2, gradient 75,
   Cardiology following.
    # Severe Alzheimer's Dementia - baseline speaks in monosyllables and
   says yes or no to any questions. PO meds on hold for now
    # Hypothyroidism
 cont. synthroid
   # FEN: replete electrolytes, NPO, holding TF
   # Prophylaxis: Subcutaneous heparin, H2 blocker
   # Access: RIJ
    # Code: DNR/DNI
 discussed with son
 not to re-intubate after
   extubation. Ok with bipap if necessary.
    # Communication: Son
   .# Disposition: pending above
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-3-1**] 12:30 AM
   20 Gauge - [**2145-3-9**] 08:04 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2145-03-10 09:52:00 Physician Attending Progress Note
Chief Complaint: Resp failure, shock resolved
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2145-3-9**] 12:03 PM
   started [**3-1**]
   Extubated yesterday, was on face mask, then resp distress due to mucus
   plug and pulm edema, requiring bipap.
   Got lasix, morphine, lopressor for tachycardia. Didnt tolerate mask
   this am.
   Son aware.
   [**Name2 (NI) **] unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-3-8**] 12:41 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2145-3-9**] 08:30 PM
   Morphine Sulfate - [**2145-3-9**] 08:40 PM
   Metoprolol - [**2145-3-9**] 08:59 PM
   Heparin Sodium (Prophylaxis) - [**2145-3-10**] 03:35 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-10**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.4
C (95.8
   HR: 73 (69 - 106) bpm
   BP: 106/37(55) {86/37(54) - 175/102(106)} mmHg
   RR: 25 (14 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   Mixed Venous O2% Sat: 60 - 60
   Total In:
                                                                    814 mL
                                                                     96 mL
   PO:
   TF:
                                                                    459 mL
   IVF:
                                                                    304 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                  1,486 mL
                                                                  1,350 mL
   Urine:
                                                                  1,486 mL
                                                                  1,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -672 mL
                                                                 -1,254 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PSV
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 347 (330 - 564) mL
   PS : 15 cmH2O
   RR (Spontaneous): 31
   PEEP: 8 cmH2O
   FiO2: 80%
   PIP: 25 cmH2O
   SpO2: 100%
   ABG: 7.41/52/34
   Ve: 11 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Bipap
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: All present
   Respiratory / Chest: No air entry on L, ronchorous on R
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  warm
    Neurologic: more awake today, moving limbs with stimulation.
   Labs / Radiology
   8.5 g/dL
   328 K/uL
   90 mg/dL
   0.7 mg/dL
   34 mEq/L
   4.1 mEq/L
   15 mg/dL
   103 mEq/L
   141 mEq/L
   25.5 %
   12.3 K/uL
        [image002.jpg]
                             [**2145-3-6**]  03:19 PM
                             [**2145-3-6**]  08:46 PM
                             [**2145-3-7**]  04:16 AM
                             [**2145-3-7**]  05:18 PM
                             [**2145-3-7**]  07:16 PM
                             [**2145-3-8**]  04:16 AM
                             [**2145-3-9**]  05:15 AM
                             [**2145-3-9**]  04:27 PM
                             [**2145-3-10**]  01:33 AM
                             [**2145-3-10**]  03:57 AM
   WBC
   14.0
   13.7
   10.2
   12.3
   Hct
   26.9
   26.9
   24.3
   25.5
   Plt
   241
   250
   266
   328
   Cr
   1.0
   0.9
   0.9
   0.5
   0.8
   0.8
   0.8
   0.7
   0.8
   0.7
   Glucose
   154
   139
   92
   143
   94
   119
   101
   94
   90
   Other labs: PT / PTT / INR:14.0/30.2/1.2, CK / CKMB /
   Troponin-T:38/3/0.01, ALT / AST:33/20, Alk Phos / T Bili:136/0.6,
   Differential-Neuts:86.5 %, Band:36.0 %, Lymph:8.6 %, Mono:4.1 %,
   Eos:0.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:348 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR: bilateral atelectasis and pulmonary edema with L>R
   pleural effusions
   Assessment and Plan
 PULMONARY EDEMA
 AORTIC STENOSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SHOCK, CARDIOGENIC
 INEFFECTIVE COPING
 BRADYCARDIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ELECTROLYTE & FLUID DISORDER, OTHER
   84 yo female with resolved septic + cardiogenic shock with multiple
   valvular abnormalities, tight AS not a candidate for valvuloplasty  due
   to comorbidities.   Extubated but on bipap due to mucus plugs and mild
   pulmonary edema and pleural effusions.
   Resp/Vent: Attempt bronch thru bipap to remove mucus plugs  if son
   agrees and if patient tolerates off sedation. Hesitate to sedate with
   tight AS and hypotension. Non invasive pulm toliet. Continue bipap.
   Keep diuresis. Use albumin. See if pleural fluid can be tapped.
   Metabolic alkalosis: Acetazolamide iv x 5 days
   GI: NPO since cant feed with bipap.
   Social: Palliative care and SW consults.
   Prognosis: poor due to lack of airway clearance.
   Rest per resident note.
   ICU Care
   Nutrition: npo
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2145-3-1**] 12:30 AM
   20 Gauge - [**2145-3-7**] 01:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: N/A
   Comments:
   Communication:  Comments: Daily discussion with son
   [**Name (NI) 156**] status: DNR/DNI
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill

2145-03-11 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 THORACENTESIS - At [**2145-3-10**] 11:30 AM
   Thoracentesis done yesterday with removal of 500cc.  CXR showed no
   PTX.
   Patient was -2.5L at midnight.
   BIPAP placed overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-3-8**] 12:41 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-3-11**] 06:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-11**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 72 (69 - 93) bpm
   BP: 94/59(62) {74/37(53) - 138/91(94)} mmHg
   RR: 29 (22 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                    269 mL
                                                                     67 mL
   PO:
             TF:
   IVF:
                                                                    269 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  2,968 mL
                                                                    240 mL
   Urine:
                                                                  2,418 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
                                                                    550 mL
   Balance:
                                                                 -2,699 mL
                                                                   -173 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 575 (347 - 575) mL
   PS : 15 cmH2O
   RR (Spontaneous): 30
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 25 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 8.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   333 K/uL
   8.4 g/dL
   88 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.1 mEq/L
   14 mg/dL
   107 mEq/L
   141 mEq/L
   25.3 %
   10.9 K/uL
        [image002.jpg]
                             [**2145-3-6**]  08:46 PM
                             [**2145-3-7**]  04:16 AM
                             [**2145-3-7**]  05:18 PM
                             [**2145-3-7**]  07:16 PM
                             [**2145-3-8**]  04:16 AM
                             [**2145-3-9**]  05:15 AM
                             [**2145-3-9**]  04:27 PM
                             [**2145-3-10**]  01:33 AM
                             [**2145-3-10**]  03:57 AM
                             [**2145-3-11**]  03:08 AM
   WBC
   14.0
   13.7
   10.2
   12.3
   10.9
   Hct
   26.9
   26.9
   24.3
   25.5
   25.3
   Plt
   241
   250
   266
   328
   333
   Cr
   0.9
   0.9
   0.5
   0.8
   0.8
   0.8
   0.7
   0.8
   0.7
   0.7
   Glucose
   139
   92
   143
   94
   119
   101
   94
   90
   88
   Other labs: PT / PTT / INR:14.0/30.2/1.2, CK / CKMB /
   Troponin-T:38/3/0.01, ALT / AST:33/20, Alk Phos / T Bili:136/0.6,
   Differential-Neuts:86.5 %, Band:36.0 %, Lymph:8.6 %, Mono:4.1 %,
   Eos:0.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:277 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   84y/o F with a PMH of severe Alzheimer's dementia, CAD s/p CABG and
   aortic stenosis admitted with severe septic shock now with respiratory
   failure
   # Respiratory Failure (non ARDS)
 Multiple components which include
   sepsis which required fluid resuscitation in the setting of
   hypotension.  Patient now with pulmonary edema [**3-1**] fluid overload and
   severe aortic stenosis.  Extubated yesterday however now with pulm
   edema and evidence of mucus plugging last night, requiring BiPAP. Neg
   >1L with lasix.
   - BIPAP as needed
   - reassess for pleural effusion and consider thoracentesis
   - aggressive pulmonary toileting and suctioning
   .
   # Septic Shock :  +UTI with only 10.000-100.000 organisms which makes
   this source unlikely.  Patient has completed course of Vanco/Zosyn
   - BP now stable off pressors
   - f/u blood cultures
   .
    # UTI
 pan-sensitive E. Coli culture date [**2-28**]
 pt on zosyn for PNA
   as above, completed 7 day course
   .
    # ARF
 currently resolved, will cont to monitor in setting of
   diuresis
   .
    # CAD s/p CABG - Ruled out ischemia as above. EF 40%
   .
    # Aortic Stenosis
 Severe AS with AV area <0.8cm2, gradient 75,
   Cardiology following.
   .
    # Severe Alzheimer's Dementia - baseline speaks in monosyllables and
   says yes or no to any questions. PO meds on hold for now
    # Hypothyroidism
 cont. synthroid
   .
   # FEN: replete electrolytes, NPO, holding TF, S&S following possible
   wean of NIIV
   .
   # Prophylaxis: Subcutaneous heparin, H2 blocker
   .
   # Access: RIJ
    # Code: DNR/DNI
 discussed with son
 not to re-intubate after
   extubation. Ok with bipap if necessary.
    # Communication: Son
   .# Disposition: Will re-eval for thoracentesis and possible bronch to
   suction mucus plug, if these interventions fail, further options
   limited given severe AS  and pulmonary edema. Plan for family meeting
   with son.
   ICU [**Name2 (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-3-1**] 12:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2145-03-11 10:38:00 Physician Attending Progress Note
Chief Complaint: Resp failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 THORACENTESIS - At [**2145-3-10**] 11:30 AM: 500 cc bloody fluid removed.
   CXR improved. -2.5 L with lasix drip, was several hrs off bipap, RR
   30s, yet to be seen by pall care.
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-3-8**] 12:41 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-3-11**] 06:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-11**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.4
   HR: 74 (69 - 93) bpm
   BP: 100/82(86) {74/40(53) - 138/91(94)} mmHg
   RR: 28 (21 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.3 kg (admission): 71 kg
   Height: 60 Inch
             Total In:
                                                                    269 mL
                                                                    129 mL
   PO:
             TF:
   IVF:
                                                                    269 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                  2,968 mL
                                                                    381 mL
   Urine:
                                                                  2,418 mL
                                                                    381 mL
   NG:
   Stool:
   Drains:
                                                                    550 mL
   Balance:
                                                                 -2,699 mL
                                                                   -252 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 575 (499 - 575) mL
   PS : 15 cmH2O
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 95%
   PIP: 25 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 8.8 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   atR  bases), (Breath Sounds: Crackles : L base, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, 3+ sacral edema
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   333 K/uL
   88 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.1 mEq/L
   14 mg/dL
   107 mEq/L
   141 mEq/L
   10.9 K/uL
        [image002.jpg]
                             [**2145-3-7**]  04:16 AM
                             [**2145-3-7**]  05:18 PM
                             [**2145-3-7**]  07:16 PM
                             [**2145-3-8**]  04:16 AM
                             [**2145-3-9**]  05:15 AM
                             [**2145-3-9**]  04:27 PM
                             [**2145-3-10**]  01:33 AM
                             [**2145-3-10**]  03:57 AM
                             [**2145-3-11**]  03:08 AM
                             [**2145-3-11**]  07:00 AM
   WBC
   14.0
   13.7
   10.2
   12.3
   10.9
   Hct
   26.9
   26.9
   24.3
   25.5
   25.3
   99.0
   Plt
   241
   250
   266
   328
   333
   Cr
   0.9
   0.5
   0.8
   0.8
   0.8
   0.7
   0.8
   0.7
   0.7
   Glucose
   139
   92
   143
   94
   119
   101
   94
   90
   88
   Other labs: PT / PTT / INR:14.0/30.2/1.2, CK / CKMB /
   Troponin-T:38/3/0.01, ALT / AST:33/20, Alk Phos / T Bili:136/0.6,
   Differential-Neuts:86.5 %, Lymph:8.6 %, Mono:4.1 %, Eos:0.4 %, Lactic
   Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:277 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 PULMONARY EDEMA
 AORTIC STENOSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SHOCK, CARDIOGENIC
 INEFFECTIVE COPING
 BRADYCARDIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ELECTROLYTE & FLUID DISORDER, OTHER
   84y/o F with resolved shock. poor mental status from underlying
   dementia. Improved resp status after [**Female First Name (un) **] yesterday. DNR/DNI.
   Improving mental status. Tight AS, not a good candidate for
   valvuloplasty.
   Resp: Keep I/O neg, need good pulm toilet, attempt to schedule bipap at
   night, ? [**Female First Name (un) **] on R.
   FEN: s/s eval
   Prognosis: gaurded, SW and palliative care consults..likely to have
   mucus plugging again
   IV access: look for peripherals
   Rest per resident note
   ICU Care
   Nutrition: s/s consult
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-3-1**] 12:30 AM
   look for peripherals
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments: daily discussion with son
   [**Name (NI) 156**] status: DNR (do not resuscitate)/DNI
   Disposition: ICU

2145-03-12 06:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Failed Speech/Swallow exam. They will reeval on Monday.
   - Rested on BiPap overnight.
   - Continued on lasix gtt throughout the day, with a total -1.2L/24hours
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2145-3-12**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-12**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 73 (71 - 102) bpm
   BP: 107/49(63) {91/41(54) - 149/9,449(100)} mmHg
   RR: 28 (18 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.3 kg (admission): 71 kg
   Height: 60 Inch
             Total In:
                                                                    285 mL
                                                                     78 mL
   PO:
             TF:
   IVF:
                                                                    285 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  1,526 mL
                                                                    845 mL
   Urine:
                                                                  1,526 mL
                                                                    845 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,241 mL
                                                                   -767 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 520 (340 - 520) mL
   PS : 12 cmH2O
   RR (Spontaneous): 31
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 13.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   414 K/uL
   8.7 g/dL
   79 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.3 mEq/L
   10 mg/dL
   105 mEq/L
   140 mEq/L
   26.3 %
   11.4 K/uL
        [image002.jpg]
                             [**2145-3-7**]  05:18 PM
                             [**2145-3-7**]  07:16 PM
                             [**2145-3-8**]  04:16 AM
                             [**2145-3-9**]  05:15 AM
                             [**2145-3-9**]  04:27 PM
                             [**2145-3-10**]  01:33 AM
                             [**2145-3-10**]  03:57 AM
                             [**2145-3-11**]  03:08 AM
                             [**2145-3-11**]  07:00 AM
                             [**2145-3-12**]  04:15 AM
   WBC
   13.7
   10.2
   12.3
   10.9
   11.4
   Hct
   26.9
   24.3
   25.5
   25.3
   99.0
   26.3
   Plt
   [**Telephone/Fax (3) 4638**]33
   414
   Cr
   0.5
   0.8
   0.8
   0.8
   0.7
   0.8
   0.7
   0.7
   0.7
   Glucose
   92
   143
   94
   119
   101
   94
   90
   88
   79
   Other labs: PT / PTT / INR:13.8/26.4/1.2, CK / CKMB /
   Troponin-T:38/3/0.01, ALT / AST:33/20, Alk Phos / T Bili:136/0.6,
   Differential-Neuts:86.5 %, Band:36.0 %, Lymph:8.6 %, Mono:4.1 %,
   Eos:0.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:277 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   MICRO:
   [1][**2145-3-10**]
   PLEURAL FLUID
   GRAM STAIN-FINAL; FLUID CULTURE-PRELIMINARY; ANAEROBIC
   CULTURE-PRELIMINARY
 4+ POLYS, no organisms
   [2][**2145-3-3**]
   BRONCHOALVEOLAR LAVAGE
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   [3][**2145-3-3**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   [4][**2145-3-2**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   [5][**2145-3-2**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   [6][**2145-3-1**]
   Rapid Respiratory Viral Screen & Culture
   Rapid Respiratory Viral Antigen Test-FINAL; Respiratory Viral
   Culture-FINAL
   [7][**2145-3-1**]
   Rapid Respiratory Viral Screen & Culture
   Respiratory Viral Culture-FINAL; Rapid Respiratory Viral Antigen
   Test-FINAL
   [8][**2145-3-1**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   [9][**2145-3-1**]
   MRSA SCREEN
   MRSA SCREEN-FINAL
   [10][**2145-3-1**]
   URINE
   Legionella Urinary Antigen -FINAL
   [11][**2145-2-28**]
   URINE
   URINE CULTURE-FINAL {ESCHERICHIA COLI}
ESCHERICHIA COLI.    10,000-100,000 ORGANISMS/ML..
         PRESUMPTIVE IDENTIFICATION.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             ESCHERICHIA COLI
                             |
AMPICILLIN------------     4 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CEFUROXIME------------     4 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN----------   <=4 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
   [12][**2145-2-28**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   [13][**2145-2-28**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   Assessment and Plan
 84y/o F with a PMH of severe Alzheimer's dementia, CAD s/p CABG and
   aortic stenosis admitted with severe septic shock now with respiratory
   failure
   # Respiratory Failure (non ARDS)
  Extubated and after initial
   respiratory distress requiring BiPAP the night before last, patient is
   doing better after Neg >2L with lasix gtt overnight and s/p
   thoracentesis; now on high flow O2 only, maintaining sats
   - BIPAP as needed
   - aggressive pulmonary toileting and suctioning
   - continue to run negative with lasix as tolerated by BP
   .
   # Septic Shock:  +UTI with only 10.000-100.000 organisms which makes
   this source unlikely.  Patient has completed course of Vanco/Zosyn
   - BP now stable off pressors
   - f/u blood cultures
   .
    # UTI
 pan-sensitive E. Coli culture date [**2-28**]
 pt on zosyn for PNA
   as above, completed 7 day course
   .
    # ARF
 currently resolved, will cont to monitor in setting of
   diuresis
   .
    # CAD s/p CABG - Ruled out ischemia as above. EF 40%
   .
    # Aortic Stenosis
 Severe AS with AV area <0.8cm2, gradient 75,
   Cardiology following.
   .
    # Severe Alzheimer's Dementia - baseline speaks in monosyllables and
   says yes or no to any questions. PO meds on hold for now. Appears to be
   back to baseline
    # Hypothyroidism
 cont. synthroid
   .
   # FEN: replete electrolytes, NPO, holding TF, S&S
 would like to begin
   nutrition soon
   .
   # Prophylaxis: Subcutaneous heparin, ppi
   .
   # Access: RIJ
 should place piv
s and attempt to pull CVL tomorrow
    # Code: DNR/DNI
 discussed with son
 not to re-intubate after
   extubation. Ok with bipap if necessary.
    # Communication: Son
   .# Disposition: ICU until stable for 24 hours off bipap and not
   requiring lasix gtt
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-3-1**] 12:30 AM
   20 Gauge - [**2145-3-11**] 11:48 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22,640,400,50,50,1);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22,640,400,50,50,1);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22,640,400,50,50,1);

2145-03-12 10:42:00 Physician Attending Progress Note
Chief Complaint: Sepsis resolved
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Failed s/s very poorly.
   Diuresed well with lasix.
   6 cm pleural effusion on L, 3 cm on R, not tapped because she is
   diuresing well.
   Seen by palliative care.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 0.5 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2145-3-12**] 04:00 AM
   Pantoprazole (Protonix) - [**2145-3-12**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-12**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 99 (71 - 102) bpm
   BP: 120/48(65) {91/41(54) - 149/9,449(100)} mmHg
   RR: 27 (18 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.3 kg (admission): 71 kg
   Height: 60 Inch
             Total In:
                                                                    285 mL
                                                                    303 mL
   PO:
             TF:
   IVF:
                                                                    285 mL
                                                                    303 mL
   Blood products:
   Total out:
                                                                  1,526 mL
                                                                  1,210 mL
   Urine:
                                                                  1,526 mL
                                                                  1,210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,241 mL
                                                                   -907 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 441 (340 - 520) mL
   PS : 12 cmH2O
   RR (Spontaneous): 32
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 11.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   414 K/uL
   79 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.3 mEq/L
   10 mg/dL
   105 mEq/L
   140 mEq/L
   26.3 %
   11.4 K/uL
        [image002.jpg]
                             [**2145-3-7**]  05:18 PM
                             [**2145-3-7**]  07:16 PM
                             [**2145-3-8**]  04:16 AM
                             [**2145-3-9**]  05:15 AM
                             [**2145-3-9**]  04:27 PM
                             [**2145-3-10**]  01:33 AM
                             [**2145-3-10**]  03:57 AM
                             [**2145-3-11**]  03:08 AM
                             [**2145-3-11**]  07:00 AM
                             [**2145-3-12**]  04:15 AM
   WBC
   13.7
   10.2
   12.3
   10.9
   11.4
   Hct
   26.9
   24.3
   25.5
   25.3
   99.0
   26.3
   Plt
   [**Telephone/Fax (3) 4638**]33
   414
   Cr
   0.5
   0.8
   0.8
   0.8
   0.7
   0.8
   0.7
   0.7
   0.7
   Glucose
   92
   143
   94
   119
   101
   94
   90
   88
   79
   Other labs: PT / PTT / INR:13.8/26.4/1.2, CK / CKMB /
   Troponin-T:38/3/0.01, ALT / AST:33/20, Alk Phos / T Bili:136/0.6,
   Differential-Neuts:86.5 %, Band:36.0 %, Lymph:8.6 %, Mono:4.1 %,
   Eos:0.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:277 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 PULMONARY EDEMA
 AORTIC STENOSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SHOCK, CARDIOGENIC
 INEFFECTIVE COPING
 BRADYCARDIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ELECTROLYTE & FLUID DISORDER, OTHER
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   atR  bases), (Breath Sounds: Crackles : L base, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, 3+ sacral edema
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   84y/o F with resolved shock. Improved mental status but underlying
   dementia. Stable resp on bipap overnight, M this am.  DNR/DNI. Tight
   AS, not a good candidate for valvuloplasty.
   Resp: Keep I/O neg with small iv boluses, continue good pulm toilet,
   attempt to schedule bipap at night.
   FEN: failed ss eval, place NGT and feed. Discuss peg with son due to
   difficulty with Bipap + NGT.
   Prognosis: gaurded, SW and palliative care consults..likely to have
   mucus plugging again
   IV access: has peripherals, put in for midline/picc, d/c central line
   Rest per resident note
   ICU Care
   Nutrition: s/s consult
   Glycemic Control:  ssi
   Lines:
   Multi Lumen - [**2145-3-1**] 12:30 AM
   picc consult
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments: daily discussion with son
   [**Name (NI) 156**] status: DNR (do not resuscitate)/DNI
   Disposition: ICU
   Time spent: 35 min

2145-03-13 07:18:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure
   24 Hour Events:
 PICC LINE - START [**2145-3-12**] 12:36 PM
 MULTI LUMEN - STOP [**2145-3-12**] 04:02 PM
   CVL pulled yesterday and PICC placed
   Pt evaluated by IR for percutaneous gastrostomy tube, however given her
   respiratory status, she is unable to lay flat long enough to tolerate
   procedure - NGT placed last pm and TF started
   Pt rested on Bipap overnight with good toleration
   Neg 1.2L yesterday with lasix 10mg, decreased urine output last pm
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-3-12**] 08:05 AM
   Heparin Sodium - [**2145-3-13**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-13**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 73 (72 - 100) bpm
   BP: 102/50(61) {86/39(51) - 144/74(86)} mmHg
   RR: 28 (22 - 38) insp/[**Year (4 digits) **]
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.9 kg (admission): 71 kg
   Height: 60 Inch
             Total In:
                                                                    670 mL
                                                                     98 mL
   PO:
             TF:
                                                                    150 mL
                                                                      8 mL
   IVF:
                                                                    440 mL
                                                                     90 mL
   Blood products:
   Total out:
                                                                  1,883 mL
                                                                     89 mL
   Urine:
                                                                  1,883 mL
                                                                     89 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,213 mL
                                                                      9 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 538 (438 - 595) mL
   PS : 12 cmH2O
   RR (Spontaneous): 30
   PEEP: 6 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 9.5 L/[**Year (4 digits) **]
   Physical Examination
   Gen: Sitting in chair on face mask, smiling, NAD
   CVS: +S1/S2, I/VI SEM LUSB, RRR
   LUNGS: +ronchi anterior lung fields
   ABD: +BS, NT/ND
   EXT: no c/c/e
   Labs / Radiology
   402 K/uL
   8.2 g/dL
   101 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.6 mEq/L
   11 mg/dL
   105 mEq/L
   140 mEq/L
   25.2 %
   9.0 K/uL
        [image002.jpg]
                             [**2145-3-8**]  04:16 AM
                             [**2145-3-9**]  05:15 AM
                             [**2145-3-9**]  04:27 PM
                             [**2145-3-10**]  01:33 AM
                             [**2145-3-10**]  03:57 AM
                             [**2145-3-11**]  03:08 AM
                             [**2145-3-11**]  07:00 AM
                             [**2145-3-12**]  04:15 AM
                             [**2145-3-12**]  05:12 PM
                             [**2145-3-13**]  04:48 AM
   WBC
   13.7
   10.2
   12.3
   10.9
   11.4
   9.0
   Hct
   26.9
   24.3
   25.5
   25.3
   99.0
   26.3
   25.2
   Plt
   [**Telephone/Fax (3) 4638**]33
   414
   402
   Cr
   0.8
   0.8
   0.7
   0.8
   0.7
   0.7
   0.7
   0.7
   0.7
   Glucose
   94
   119
   101
   94
   90
   88
   79
   102
   101
   Other labs: PT / PTT / INR:13.8/26.4/1.2, CK / CKMB /
   Troponin-T:38/3/0.01, ALT / AST:33/20, Alk Phos / T Bili:136/0.6,
   Differential-Neuts:86.5 %, Band:36.0 %, Lymph:8.6 %, Mono:4.1 %,
   Eos:0.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:277 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR [**3-12**] - AP PORTABLE CHEST: There has been interval
   placement of a nasogastric tube
   which terminates in the stomach. Otherwise, there has been no short
   interval
   change in appearance of the chest compared to the study acquired 30
   minutes
   previously.
   Microbiology: /[**12-6**] 11:40 am PLEURAL FLUID      PLEURAL FLUID..
      GRAM STAIN (Final [**2145-3-10**]):
         4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
         This is a concentrated smear made by cytospin method, please
   refer to
         hematology for a quantitative white blood cell count..
      FLUID CULTURE (Preliminary):    NO GROWTH.
      ANAEROBIC CULTURE (Preliminary):    NO GROWTH.
   Assessment and Plan
   84 yof with a PMH of severe Alzheimer's dementia, CAD s/p CABG and
   aortic stenosis admitted with severe septic shock now with respiratory
   failure
   # Respiratory Failure (non ARDS)
  Likely [**3-1**] to severe AS and sepsis
   requiring fluid resusciation. Patient had left thoracentesis three days
   ago with improvement in left effusion on CXR.  Patient has now been
   extubated.  Currently on intermittent BIPAP and doing well, currently
   on face mask and has good oxygen saturation and looks comfortable.
   Will cont intermittent BIPAP at night.
   - BIPAP as needed
   - aggressive pulmonary toileting and suctioning
   - continue to run negative with lasix as tolerated by BP
   - Lasix 10mg IV x 1
   - 1L
 1.5 negative today
   - start mucomyst to help with secretions
   - hold tube feeds and start TPN given risk of aspiration with BIPAP
   # Septic Shock:  +UTI with only 10.000-100.000 organisms which makes
   this source unlikely.  Patient has completed course of Vanco/Zosyn
   - BP now stable off pressors
    # UTI
 pan-sensitive E. Coli culture date [**2-28**]
, completed 7 day
   course of Zosyn
    # ARF
 currently resolved, will cont to monitor in setting of
   diuresis
   # CAD s/p CABG - Ruled out ischemia as above. EF 40%
   # Aortic Stenosis
 Severe AS with AV area <0.8cm2, gradient 75
    # Severe Alzheimer's Dementia - baseline speaks in monosyllables and
   says yes or no to any questions.  Cont home PO meds. Appears to be back
   to baseline
    # Hypothyroidism
  cont synrhroid
   # FEN: replete electrolytes, NPO, holding TF.  Failed S&S. start TPN as
   above, nutrition consult
   # Prophylaxis:SQ Hep, ppi
   # Access: PICC started on [**3-12**]
    # Code: DNR/DNI
 discussed with son
 not to re-intubate after
   extubation. Ok with bipap if necessary.
    # Communication: Son
    # Disposition: ICU currently
   ICU Care
   Nutrition:
   Comments: d/c Tube feeds, start TPN
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-3-11**] 11:48 AM
   18 Gauge - [**2145-3-12**] 11:07 AM
   PICC Line - [**2145-3-12**] 12:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR/DNI (do not resuscitate)
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: Mrs [**Known lastname **] has continued problems with
   secretion clearance. She need NT suctioining QS and BiPAP for
   ventilatory support.
   Exam notable for Tm100.4 BP 102/44 HR 80-90 RR 26 with sats of 96% on
   NRB . She has audible rales in all lung fields and expiratory wheezing
   at right base.
   Labs notable for WBC9.0 K, HCT of 25.2 , K+3.6 , Cr 0.7 . CXR with
   right sided effuision and clearing left lung ASD.
   Agree with plan to gently siurese, use BiPAP and nebs and NT suctioning
   during daytime. We will hodl tube feeds till bipap needs are less and
   start TPN. We will also use MIE, mucomyst nebs and positional assist to
   help with secretions. She may very well need therapeutic tap of Rt
   effusion if this does not resolve with lasix over next 48 hrs.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 45 [**First Name8 (NamePattern2) **]
   [**First Name8 (NamePattern2) **] [**Doctor Last Name 803**].M.D.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2145-3-13**] 12:43 PM ------

2145-03-14 06:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2145-3-14**] 12:42 AM
 EKG - At [**2145-3-14**] 02:26 AM
   Received Lasix 10mg x 2 yesterday with minimal response.  Placed on
   BIPAP yesterday evening for tachypnea.  BIPAP removed overnight and
   patient then given Lasix 20mg IV x 2 over last 8 hours with improved
   output.
   K+ low this morning, repleted.
   Nutrition consulted for TPN, ordered this morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-3-13**] 08:02 AM
   Furosemide (Lasix) - [**2145-3-14**] 05:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-14**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96
   HR: 97 (56 - 107) bpm
   BP: 131/63(75) {90/38(49) - 162/72(94)} mmHg
   RR: 34 (18 - 42) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.9 kg (admission): 71 kg
   Height: 60 Inch
             Total In:
                                                                    774 mL
                                                                    369 mL
   PO:
             TF:
                                                                     67 mL
   IVF:
                                                                    351 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                  1,349 mL
                                                                    860 mL
   Urine:
                                                                  1,349 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -575 mL
                                                                   -491 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 350 (305 - 643) mL
   PS : 10 cmH2O
   RR (Spontaneous): 2,843
   PEEP: 6 cmH2O
   FiO2: 50%
   PIP: 18 cmH2O
   Plateau: 9 cmH2O
   SpO2: 97%
   ABG: ///28/
   Ve: 8.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   379 K/uL
   7.9 g/dL
   125 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.3 mEq/L
   13 mg/dL
   105 mEq/L
   140 mEq/L
   24.0 %
   8.1 K/uL
        [image002.jpg]
                             [**2145-3-9**]  04:27 PM
                             [**2145-3-10**]  01:33 AM
                             [**2145-3-10**]  03:57 AM
                             [**2145-3-11**]  03:08 AM
                             [**2145-3-11**]  07:00 AM
                             [**2145-3-12**]  04:15 AM
                             [**2145-3-12**]  05:12 PM
                             [**2145-3-13**]  04:48 AM
                             [**2145-3-13**]  05:08 PM
                             [**2145-3-14**]  02:27 AM
   WBC
   12.3
   10.9
   11.4
   9.0
   8.1
   Hct
   25.5
   25.3
   99.0
   26.3
   25.2
   24.0
   Plt
   328
   333
   414
   402
   379
   Cr
   0.7
   0.8
   0.7
   0.7
   0.7
   0.7
   0.7
   0.8
   0.7
   Glucose
   101
   94
   90
   88
   79
   102
   101
   99
   125
   Other labs: PT / PTT / INR:13.8/26.4/1.2, CK / CKMB /
   Troponin-T:38/3/0.01, ALT / AST:33/20, Alk Phos / T Bili:136/0.6,
   Differential-Neuts:86.5 %, Band:36.0 %, Lymph:8.6 %, Mono:4.1 %,
   Eos:0.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:277 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 MALNUTRITION
 PULMONARY EDEMA
 AORTIC STENOSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SHOCK, CARDIOGENIC
 INEFFECTIVE COPING
 BRADYCARDIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ELECTROLYTE & FLUID DISORDER, OTHER
   84 yof with a PMH of severe Alzheimer's dementia, CAD s/p CABG and
   aortic stenosis admitted with severe septic shock now with respiratory
   failure
   # Respiratory Failure (non ARDS)
  Likely [**3-1**] to severe AS and sepsis
   requiring fluid resusciation. Patient had left thoracentesis three days
   ago with improvement in left effusion on CXR.  Patient has now been
   extubated.  Currently on intermittent BIPAP and doing well, currently
   on face mask and has good oxygen saturation and looks comfortable.
   Will cont intermittent BIPAP at night.
   - BIPAP as needed
   - aggressive pulmonary toileting and suctioning
   - continue to run negative with lasix as tolerated by BP
   - Lasix 10mg IV x 1
   - 1L
 1.5 negative today
   - start mucomyst to help with secretions
   - hold tube feeds and start TPN given risk of aspiration with BIPAP
   # Septic Shock:  +UTI with only 10.000-100.000 organisms which makes
   this source unlikely.  Patient has completed course of Vanco/Zosyn
   - BP now stable off pressors
    # UTI
 pan-sensitive E. Coli culture date [**2-28**]
, completed 7 day
   course of Zosyn
    # ARF
 currently resolved, will cont to monitor in setting of
   diuresis
   # CAD s/p CABG - Ruled out ischemia as above. EF 40%
   # Aortic Stenosis
 Severe AS with AV area <0.8cm2, gradient 75
    # Severe Alzheimer's Dementia - baseline speaks in monosyllables and
   says yes or no to any questions.  Cont home PO meds. Appears to be back
   to baseline
    # Hypothyroidism
  cont synrhroid
   # FEN: replete electrolytes, NPO, holding TF.  Failed S&S. start TPN as
   above, nutrition consult
   # Prophylaxis:SQ Hep, ppi
   # Access: PICC started on [**3-12**]
    # Code: DNR/DNI
 discussed with son
 not to re-intubate after
   extubation. Ok with bipap if necessary.
    # Communication: Son
    # Disposition: ICU currently
   ICU Care
   Nutrition:
   TPN without Lipids - [**2145-3-13**] 06:13 PM 41 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-3-11**] 11:48 AM
   PICC Line - [**2145-3-12**] 12:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: Mrs [**Known lastname **] has continued problems with
   secretion clearance. She need NT suctioining QS and BiPAP for
   ventilatory support. She is unable to tolerate time off NIPPV for even
   30 mins at a time
   Exam notable for Tm96.4 BP 102/44 HR 80-90 RR 26 with sats of 99% on
   NRB . She has audible rales at right base fields and expiratory
   wheezing in all lung fields. No peripheral edema noted
   Labs notable for WBC 8.1 K, HCT of 24 , K+3.3 , Cr 0.7 . CXR with right
   sided effusion and clearing left lung ASD.
   Agree with plan to gently diurese and start IV enalaprilat, use BiPAP
   and nebs and NT suctioning during daytime. We will hold tube feeds till
   bipap needs are less and start TPN. We will also use MIE, mucomyst nebs
   and positional assist to help with secretions. She may very well need
   therapeutic tap of Rt effusion if this does not resolve with lasix over
   next 48 hrs. Iv Abx will be restarted for possible sinusitis given
   copious mucoid secretions. Extensive update with sons [**Name (NI) **] and [**Name (NI) 362**]
   today regarding her condition. While they wish the best for her, they
   do not wish for her to be uncomfortable.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 45 min

2145-03-15 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   patient was not tolerating being off the bipap yesterday. Started
   enalaprilat IV to see if afterload reduction would help with forward
   flow along with diuresis, and this seemed to work well - she spent 2.5
   hours off bipap in the afternoon.
   Overnight, the patient was off bipap for 25 minutes before respiratory
   distress. On exam, she had copious upper airway secretions and
   crackles. She was nasotracheal suctioned and given 1mg morphine, 20mg
   IV lasix and an extra dose of enalaprilat with good effect, and she
   stayed off bipap until this morning (still off) - total of 4.5 hours.
   Diuresing well.
   Sputum sent for culture.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-3-14**] 08:05 PM
   Morphine Sulfate - [**2145-3-15**] 01:29 AM
   Furosemide (Lasix) - [**2145-3-15**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-15**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 77 (74 - 104) bpm
   BP: 118/41(61) {91/39(54) - 138/82(94)} mmHg
   RR: 27 (19 - 37) insp/[**Year (4 digits) **]
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.9 kg (admission): 71 kg
   Height: 60 Inch
             Total In:
                                                                  1,607 mL
                                                                    510 mL
   PO:
             TF:
   IVF:
                                                                    490 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                  2,760 mL
                                                                  1,105 mL
   Urine:
                                                                  2,760 mL
                                                                  1,105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,153 mL
                                                                   -595 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 670 (236 - 670) mL
   PS : 14 cmH2O
   RR (Spontaneous): 40
   PEEP: 6 cmH2O
   FiO2: 70%
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 11.9 L/[**Year (4 digits) **]
   Physical Examination
   General
 mild respiratory distress off Bipap, alert
   HEENT: skin breakdown on face; op clear but copious upper airway
   secretions
   Lungs: Reduced air movement on left, rhonchi and crackles on right
   Heart: II/VI SM, RRR
   Abdomen
 benign
   Ext - wwp
   Labs / Radiology
   439 K/uL
   8.5 g/dL
   120 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.2 mEq/L
   17 mg/dL
   106 mEq/L
   175
   27.0 %
   9.4 K/uL
        [image002.jpg]
                             [**2145-3-11**]  03:08 AM
                             [**2145-3-11**]  07:00 AM
                             [**2145-3-12**]  04:15 AM
                             [**2145-3-12**]  05:12 PM
                             [**2145-3-13**]  04:48 AM
                             [**2145-3-13**]  05:08 PM
                             [**2145-3-14**]  02:27 AM
                             [**2145-3-14**]  04:48 PM
                             [**2145-3-14**]  06:29 PM
                             [**2145-3-15**]  04:24 AM
   WBC
   10.9
   11.4
   9.0
   8.1
   9.4
   Hct
   25.3
   99.0
   26.3
   25.2
   24.0
   27.0
   Plt
   333
   414
   402
   379
   439
   Cr
   0.7
   0.7
   0.7
   0.7
   0.8
   0.7
   0.8
   0.7
   Glucose
   88
   79
   102
   101
   99
   125
   726
   127
   120
   Other labs: PT / PTT / INR:13.8/26.4/1.2, CK / CKMB /
   Troponin-T:38/3/0.01, ALT / AST:33/20, Alk Phos / T Bili:136/0.6,
   Differential-Neuts:86.5 %, Band:36.0 %, Lymph:8.6 %, Mono:4.1 %,
   Eos:0.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:277 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   MICRO:
   [1][**2145-3-14**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   [2][**2145-3-10**]
   PLEURAL FLUID
   GRAM STAIN-FINAL; FLUID CULTURE-FINAL; ANAEROBIC CULTURE-PRELIMINARY
   [3][**2145-3-3**]
   BRONCHOALVEOLAR LAVAGE
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   [4][**2145-3-3**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   [5][**2145-3-2**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   [6][**2145-3-2**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   [7][**2145-3-1**]
   Rapid Respiratory Viral Screen & Culture
   Rapid Respiratory Viral Antigen Test-FINAL; Respiratory Viral
   Culture-FINAL
   [8][**2145-3-1**]
   Rapid Respiratory Viral Screen & Culture
   Respiratory Viral Culture-FINAL; Rapid Respiratory Viral Antigen
   Test-FINAL
   [9][**2145-3-1**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   [10][**2145-3-1**]
   MRSA SCREEN
   MRSA SCREEN-FINAL
   [11][**2145-3-1**]
   URINE
   Legionella Urinary Antigen -FINAL
   [12][**2145-2-28**]
   URINE
   URINE CULTURE-FINAL {ESCHERICHIA COLI}
   [13][**2145-2-28**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   [14][**2145-2-28**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   Assessment and Plan
   84 yof with a PMH of severe Alzheimer's dementia, CAD s/p CABG and
   aortic stenosis admitted with severe septic shock now with respiratory
   failure
   # Respiratory Failure (non ARDS) - [**3-1**] to severe AS and inability to
   tolerate increased VR off of Bipap. Enalaprilat seemed to increase her
   forward flow and aided in continued diuresis and allowed her to be off
   bipap almost 6 hours overnight. That being said, she seems to be
   plugging on the left.
   - BIPAP as needed
   - continue enalaprilat Q6H
   - check CXR this morning
   - aggressive pulmonary toileting and suctioning
   - continue to run negative with lasix as tolerated by BP
   - -500 negative today
   - mucomyst to help with secretions; starting unasyn for ?sinusitis
   - hold tube feeds and start TPN given risk of aspiration with BIPAP
   # CAD s/p CABG - Ruled out ischemia as above. EF 40%; Aortic Stenosis
   Severe AS with AV area <0.8cm2, gradient 75
    # Severe Alzheimer's Dementia - baseline speaks in monosyllables and
   says yes or no to any questions. Unable to initiate PO meds at this
   time.
    # Hypothyroidism
  cont synthroid
   # FEN: replete electrolytes, NPO, holding TF.  Failed S&S. TPN as
   above, nutrition consult
   # Prophylaxis: SQ Hep, ppi
   # Access: PICC started on [**3-12**]
    # Code: DNR/DNI
 discussed with son
 not to re-intubate after
   extubation. Ok with bipap as necessary, but given difficulty with
   secretions and hemodynamics, patient has been unable to tolerate
   prolonged amounts of time of Bipap. Will readdress goals of care
   tonight with family.
    # Communication: Sons
    # Disposition: ICU currently
   ICU Care
   Nutrition:
   TPN without Lipids - [**2145-3-14**] 06:33 PM 54 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-3-11**] 11:48 AM
   PICC Line - [**2145-3-12**] 12:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: Mrs [**Last Name (STitle) 1277**] in a little more lethargic today
   .vanco started yesterday given open abd wounds and she now has yeast in
   ascitic fluid from that site. caspogungin also started today pending
   repeat paracentesis.
   Exam notable for deep jaundice and mild asterixis. She has dry MM with
   pooling of oral secretions and weak gag.  Tm 101.3 104/32  HR70 RR
   14-18 with sats of 96%  on 4 lpm .she has oozing wounds from belly
   taps.  she is oriented to name and place today.
   Labs notable for WBC 7.7K, hct of 33.7, K of 3.1 and creat of 3.5, BUN
   is 52 and Na of 149. CXR shows small lung volumes. She is 900 cc
   Positive overnight.
   While she has reamined extubated, she remains a high aspiration risk.
   She has concerns of ongoing sepsis ( fungal, SBP, apsiration as
   sources). I concur with plans to to tap belly with USG guidance by IR
   and start broad Abx including caspofungin. She will need HD today but
   will not take fluid off. Also free water to be repleted today. Tube
   feeds will be started slowly later today if residuals not high. TPN
   only to be started if fungal cultures are negative. ID input today
   given complexities and transplant situation.
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**], MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 **]
   [**Location (un) 4113**], KS-B23
   [**Location (un) **], [**Numeric Identifier 4114**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2145-3-15**] 11:55 AM ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: Mrs [**Known lastname **] has continued problems with
   secretion clearance. She need NT suctioining QS and BiPAP for
   ventilatory support. She has responded well to enalaprilat IV with
   better effective diuresis ( 900cc) and increased time off bipap on [**3-14**]
   ( 6 hrs). However, secretion output is still a problem and she has
   developed atelectasis of left lung on exam today
   Exam notable for Tm [**2134-3-31**] BP 102- 117/44 HR 80-90 RR 26 with sats of
   96% on NRB . She has audible rales in all lung fields and expiratory
   wheezing at right base. She has egophony over entire left lung
   Labs notable for WBC 5.8 K, HCT of 25.2 , K+3.8 , Cr 0.7 . CXR with
   right sided effuision , msall lung volume and increasing opacifaction
   of left lung
   Agree with plan to gently diurese, use BiPAP and nebs and NT suctioning
   during daytime. TPN ongoing. We will also use NT suctioning off BiPAP,
   mucomyst nebs and positional assist to help with secretions. It has
   been difficult for her to stay off biPAP for any length of time and
   family do not wish for this to continue indefinitely. If she does not
   have an improvement clinically in next 24 hrs, will will recommedn
   institution of comfort measures. BiPAP will then be D/C'd. if she does
   improve, She may very well need therapeutic tap of Rt effusion if this
   does not resolve with lasix/ enalaprilrat . Sons updated
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 45 [**First Name8 (NamePattern2) **]
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**],M.D.
   ( first addendum entered in error on this patient, please disregard)
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2145-3-15**] 12:02 PM ------
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22,640,400,50,50,1);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22,640,400,50,50,1);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22,640,400,50,50,1);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22,640,400,50,50,1);

2145-03-16 06:46:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2145-3-15**] 12:32 PM
   The patient continues on TPN
   Started on unasyn yesterday for concern of acute sinusitis
   Given lasix 20mg IV X2 with net neg 1L
   Required Bipap intermittently overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2145-3-16**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-3-15**] 08:10 AM
   Furosemide (Lasix) - [**2145-3-15**] 08:00 PM
   Morphine Sulfate - [**2145-3-15**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2145-3-16**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-16**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 87 (75 - 110) bpm
   BP: 107/45(57) {89/39(53) - 148/69(89)} mmHg
   RR: 30 (22 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.9 kg (admission): 71 kg
   Height: 60 Inch
             Total In:
                                                                  2,205 mL
                                                                    772 mL
   PO:
             TF:
   IVF:
                                                                    909 mL
                                                                    409 mL
   Blood products:
   Total out:
                                                                  3,295 mL
                                                                    530 mL
   Urine:
                                                                  3,295 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,090 mL
                                                                    242 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 736 (423 - 793) mL
   PS : 12 cmH2O
   RR (Set): 330
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 4.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed
   Gen: elderly WF, wearing shovel mask, arouses to voice, non-verbal,
   does not follow commands
   CV: RRR
   Resp: increased work of breathing, tachypneic + accessory muscle use,
   scattered wheezes
   Abdomen: soft nt/nd
   Extrem: no peripheral edema
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   455 K/uL
   8.6 g/dL
   130 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.3 mEq/L
   19 mg/dL
   105 mEq/L
   142 mEq/L
   27.3 %
   11.7 K/uL
        [image002.jpg]
                             [**2145-3-12**]  04:15 AM
                             [**2145-3-12**]  05:12 PM
                             [**2145-3-13**]  04:48 AM
                             [**2145-3-13**]  05:08 PM
                             [**2145-3-14**]  02:27 AM
                             [**2145-3-14**]  04:48 PM
                             [**2145-3-14**]  06:29 PM
                             [**2145-3-15**]  04:24 AM
                             [**2145-3-15**]  06:28 PM
                             [**2145-3-16**]  01:03 AM
   WBC
   11.4
   9.0
   8.1
   9.4
   11.7
   Hct
   26.3
   25.2
   24.0
   27.0
   27.3
   Plt
   [**Telephone/Fax (3) 4697**]39
   455
   Cr
   0.7
   0.7
   0.7
   0.8
   0.7
   0.8
   0.7
   0.6
   0.7
   Glucose
   79
   102
   101
   99
   125
   726
   127
   120
   151
   130
   Other labs: PT / PTT / INR:13.5/25.3/1.2, CK / CKMB /
   Troponin-T:38/3/0.01, ALT / AST:33/20, Alk Phos / T Bili:136/0.6,
   Differential-Neuts:86.5 %, Band:36.0 %, Lymph:8.6 %, Mono:4.1 %,
   Eos:0.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:277 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR [**3-15**] - FINDINGS: Compared to the study from earlier the
   same day, there has been
   some interval clearing of the alveolar infiltrates. There continue to
   be
   bilateral effusions, right greater than left and some patchy alveolar
   edema in
   the right upper lobe but overall the aeration is improved.
   IMPRESSION: Continued but improved CHF.
   Assessment and Plan
   84 yof with a PMH of severe Alzheimer's dementia, CAD s/p CABG and
   aortic stenosis admitted with severe septic shock now with respiratory
   failure
   # Respiratory Failure (non ARDS)
 Multifactorial, secondary to severe
   AS vs. chronic aspiration vs. mucous plugging.  She has previously
   completed a 10-day course of vanc/zosyn for treatment of infection.
   Now she remains unable to tolerate long periods off NIPPV.
   - d/c enalaprilat as no clear indication
   - aggressive pulmonary toileting and suctioning
   - Goal I/O: 0.5 liters negative; diurese as needed.
   - Mucomyst for secretions
   - strict NPO as per speech & swallow evaluation
   - Morphine PRN respiratory distress
   # Sinusitis:  Unasyn day 2 of 7.
   # CAD s/p CABG - Ruled out ischemia as above. EF 40%.
   - unable to take ASA as she is NPO
   # Aortic Stenosis
 Severe AS with AV area <0.8cm2, gradient 75.
   - BP control and gentle diuresis
    # Severe Alzheimer's Dementia - baseline speaks in monosyllables and
   says yes or no to any questions.
   -  Unable to resume PO meds (Namenda and Galantamine) at this time.
   # Hypothyroidism
  cont synthroid IV replacement.
   # FEN: replete electrolytes, NPO, holding TF.  Failed S&S -> strict
   NPO.
   - continue TPN.
   # Prophylaxis: SQ Hep as DVT ppx.
   - NO indication for PPI; will d/c
   # Access: PICC started on [**3-12**]
    # Code: DNR/DNI.  Per family, will use bipap as necessary, but given
   difficulty with secretions and hemodynamics, patient has been unable to
   tolerate prolonged amounts of time of Bipap. Will readdress goals of
   care with sons today.
    # Communication: Sons
    # Disposition: ICU currently
   ICU Care
   Nutrition:
   TPN without Lipids - [**2145-3-15**] 12:59 PM 54 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2145-3-12**] 12:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: not indicated.
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2145-03-16 09:34:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2145-3-15**] 12:32 PM
   The patient continues on TPN
   Started on unasyn for concern of acute sinusitis
   Diuresed.
   Unable to take off Bipap for long durations due to tachycardia and
   tachypnea
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2145-3-16**] 06:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2145-3-15**] 08:00 PM
   Furosemide (Lasix) - [**2145-3-15**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2145-3-16**] 04:00 AM
   Pantoprazole (Protonix) - [**2145-3-16**] 07:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-16**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 80 (75 - 110) bpm
   BP: 90/36(50) {83/36(44) - 148/69(89)} mmHg
   RR: 23 (23 - 36) insp/min
   SpO2: 100%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Wgt (current): 72.9 kg (admission): 71 kg
   Height: 60 Inch
             Total In:
                                                                  2,205 mL
                                                                  1,463 mL
   PO:
             TF:
   IVF:
                                                                    909 mL
                                                                    947 mL
   Blood products:
   Total out:
                                                                  3,295 mL
                                                                    630 mL
   Urine:
                                                                  3,295 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,090 mL
                                                                    833 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 387 (387 - 736) mL
   PS : 10 cmH2O
   RR (Spontaneous): 39
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 12.1 L/min
   Physical Examination
   Gen: awake, alert  but not particularly verbal
   HEENT: mm moist, no JVD
   CVS: S1S2, loud
   RS: ronchorous with wheezes
   PA: soft, BS +
   Extr: 2+ edema
   Labs / Radiology
   8.6 g/dL
   455 K/uL
   130 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.3 mEq/L
   19 mg/dL
   105 mEq/L
   142 mEq/L
   27.3 %
   11.7 K/uL
        [image002.jpg]
                             [**2145-3-12**]  04:15 AM
                             [**2145-3-12**]  05:12 PM
                             [**2145-3-13**]  04:48 AM
                             [**2145-3-13**]  05:08 PM
                             [**2145-3-14**]  02:27 AM
                             [**2145-3-14**]  04:48 PM
                             [**2145-3-14**]  06:29 PM
                             [**2145-3-15**]  04:24 AM
                             [**2145-3-15**]  06:28 PM
                             [**2145-3-16**]  01:03 AM
   WBC
   11.4
   9.0
   8.1
   9.4
   11.7
   Hct
   26.3
   25.2
   24.0
   27.0
   27.3
   Plt
   [**Telephone/Fax (3) 4697**]39
   455
   Cr
   0.7
   0.7
   0.7
   0.8
   0.7
   0.8
   0.7
   0.6
   0.7
   Glucose
   79
   102
   101
   99
   125
   726
   127
   120
   151
   130
   Other labs: PT / PTT / INR:13.5/25.3/1.2, CK / CKMB /
   Troponin-T:38/3/0.01, ALT / AST:33/20, Alk Phos / T Bili:136/0.6,
   Differential-Neuts:86.5 %, Band:36.0 %, Lymph:8.6 %, Mono:4.1 %,
   Eos:0.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:277 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 MALNUTRITION
 PULMONARY EDEMA
 AORTIC STENOSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SHOCK, CARDIOGENIC
 INEFFECTIVE COPING
 BRADYCARDIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   84 y/o F with dementia, acute respiratory failure after pneumonia,
   continued aspiration risk, severe AS, not a candidate for valvuloplasty
   Continues to require Bipap. Unable to feed orally due to aspiration
   risk. On TPN. On Unasyn for ? sinusitis. Continue diuresis. Need to
   readdress goals of care with family.
   Rest per house staff note
   Addendum: Mrs [**Known lastname **] was made CMO during today
s family meeting.
   ICU Care
   TPN without Lipids - [**2145-3-16**] 07:29 AM 54 mL/hour
   PICC Line - [**2145-3-12**] 12:36 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)/DNI
   Disposition : ICU Total time spent:32 minutes

2145-03-17 09:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family meeting: patient made CMO including no BIPAP, antibiotics, PPN
   - Given lasix 20mg IV x 1 to help meet diuresis goal
   - morphine drip, ativan started
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2145-3-16**] 05:41 PM
   Infusions:
   Morphine Sulfate - 6 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-3-16**] 05:41 PM
   Furosemide (Lasix) - [**2145-3-17**] 12:00 AM
   Morphine Sulfate - [**2145-3-17**] 12:30 AM
   Lorazepam (Ativan) - [**2145-3-17**] 04:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-17**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 107 (77 - 112) bpm
   BP: 66/35(42) {62/31(38) - 134/70(86)} mmHg
   RR: 27 (13 - 32) insp/min
   SpO2: 59%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Wgt (current): 72.9 kg (admission): 71 kg
   Height: 60 Inch
             Total In:
                                                                  2,376 mL
                                                                    135 mL
   PO:
             TF:
   IVF:
                                                                  1,292 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                  1,730 mL
                                                                    560 mL
   Urine:
                                                                  1,730 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    646 mL
                                                                   -425 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 628 (391 - 628) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 36%
   PIP: 16 cmH2O
   SpO2: 59%
   ABG: ////
   Ve: 9.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   455 K/uL
   8.6 g/dL
   130 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.3 mEq/L
   19 mg/dL
   105 mEq/L
   142 mEq/L
   27.3 %
   11.7 K/uL
        [image002.jpg]
                             [**2145-3-12**]  04:15 AM
                             [**2145-3-12**]  05:12 PM
                             [**2145-3-13**]  04:48 AM
                             [**2145-3-13**]  05:08 PM
                             [**2145-3-14**]  02:27 AM
                             [**2145-3-14**]  04:48 PM
                             [**2145-3-14**]  06:29 PM
                             [**2145-3-15**]  04:24 AM
                             [**2145-3-15**]  06:28 PM
                             [**2145-3-16**]  01:03 AM
   WBC
   11.4
   9.0
   8.1
   9.4
   11.7
   Hct
   26.3
   25.2
   24.0
   27.0
   27.3
   Plt
   [**Telephone/Fax (3) 4697**]39
   455
   Cr
   0.7
   0.7
   0.7
   0.8
   0.7
   0.8
   0.7
   0.6
   0.7
   Glucose
   79
   102
   101
   99
   125
   726
   127
   120
   151
   130
   Other labs: PT / PTT / INR:13.5/25.3/1.2, CK / CKMB /
   Troponin-T:38/3/0.01, ALT / AST:33/20, Alk Phos / T Bili:136/0.6,
   Differential-Neuts:86.5 %, Band:36.0 %, Lymph:8.6 %, Mono:4.1 %,
   Eos:0.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:277 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 COMFORT CARE (CMO, COMFORT MEASURES)
 MALNUTRITION
 PULMONARY EDEMA
 AORTIC STENOSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SHOCK, CARDIOGENIC
 INEFFECTIVE COPING
 BRADYCARDIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ELECTROLYTE & FLUID DISORDER, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2145-3-12**] 12:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2145-03-17 10:38:00 Physician Attending Progress Note
Chief Complaint: Resp failure, resolved sepsis
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Made CMO per family meeting yesterday, no bipap, no abx, no TPN.
   Got lasix for diuresis.
   On morphine drip and prn ativan
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2145-3-16**] 05:41 PM
   Infusions:
   Morphine Sulfate - 6 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-3-16**] 05:41 PM
   Furosemide (Lasix) - [**2145-3-17**] 12:00 AM
   Morphine Sulfate - [**2145-3-17**] 12:30 AM
   Lorazepam (Ativan) - [**2145-3-17**] 04:22 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-17**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 76 (76 - 112) bpm
   BP: 54/29(34) {54/29(34) - 134/70(86)} mmHg
   RR: 18 (13 - 32) insp/min
   SpO2: 54%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Wgt (current): 72.9 kg (admission): 71 kg
   Height: 60 Inch
             Total In:
                                                                  2,376 mL
                                                                    153 mL
   PO:
             TF:
   IVF:
                                                                  1,292 mL
                                                                    153 mL
   Blood products:
   Total out:
                                                                  1,730 mL
                                                                    560 mL
   Urine:
                                                                  1,730 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    646 mL
                                                                   -407 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 628 (628 - 628) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 36%
   PIP: 16 cmH2O
   SpO2: 54%
   ABG: ////
   Ve: 9.6 L/min
   Physical Examination
   Appears comfortable with few agonal respirations, bradycardic down to
   28 on monitor, sBP 50, rest exam deffered since patient CMO.
   Labs / Radiology
   8.6 g/dL
   455 K/uL
   130 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.3 mEq/L
   19 mg/dL
   105 mEq/L
   142 mEq/L
   27.3 %
   11.7 K/uL
        [image002.jpg]
                             [**2145-3-12**]  04:15 AM
                             [**2145-3-12**]  05:12 PM
                             [**2145-3-13**]  04:48 AM
                             [**2145-3-13**]  05:08 PM
                             [**2145-3-14**]  02:27 AM
                             [**2145-3-14**]  04:48 PM
                             [**2145-3-14**]  06:29 PM
                             [**2145-3-15**]  04:24 AM
                             [**2145-3-15**]  06:28 PM
                             [**2145-3-16**]  01:03 AM
   WBC
   11.4
   9.0
   8.1
   9.4
   11.7
   Hct
   26.3
   25.2
   24.0
   27.0
   27.3
   Plt
   [**Telephone/Fax (3) 4697**]39
   455
   Cr
   0.7
   0.7
   0.7
   0.8
   0.7
   0.8
   0.7
   0.6
   0.7
   Glucose
   79
   102
   101
   99
   125
   726
   127
   120
   151
   130
   Other labs: PT / PTT / INR:13.5/25.3/1.2, CK / CKMB /
   Troponin-T:38/3/0.01, ALT / AST:33/20, Alk Phos / T Bili:136/0.6,
   Differential-Neuts:86.5 %, Band:36.0 %, Lymph:8.6 %, Mono:4.1 %,
   Eos:0.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:277 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Assessment/Plan: Resp failure, tight AS, impaired speech/swallow,
   currently CMO, comfortable on morphine drip with agonal breathing,
   bradycardia and hypotension. HCP aware of her terminal state. Patient
   will pass away shortly.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2145-3-12**] 12:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate), CMO
   Disposition :
   Total time spent: